2183-04-21 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shortness of breath
   24 Hour Events:
   [**2183-4-20**]
   -- per wife this is his baseline; is requires constant monitoring at
   home; is usually oriented but unable to distinguish his medications
   from each other and has poor memory; has done poorly with ativan in the
   past; tolerates gabapentin well for sleep (was restarted on home
   gabapentin 100 mg po qhs)
   -- significantly sore throat and dysphagia (dysphagia may be chronic);
   ENT will see on Monday if symptoms persist
   -- patient sounded volume overloaded at 1400 and was given lasix 20mg
   IV x 2
   -- patient became more short of breath and entered an atrial
   tachycardia with borderline blood pressures; he required BiPAP,
   metoprolol 5mg IV x 3, and diltiazem 10 mg IV x 1 to convert back to
   sinus
   -- ABG stable; CXR unchanged
   -- increased amiodarone to 400 mg po bid
   -- required multiple haldol doses 1-2 mg IV for agitation on BiPAP
   -- held pm vanco dose as trough was 36
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2183-4-19**] 12:26 PM
   Cefipime - [**2183-4-19**] 11:51 PM
   Vancomycin - [**2183-4-20**] 08:10 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-4-20**] 03:09 PM
   Morphine Sulfate - [**2183-4-20**] 03:20 PM
   Metoprolol - [**2183-4-20**] 03:32 PM
   Diazepam (Valium) - [**2183-4-20**] 03:42 PM
   Heparin Sodium (Prophylaxis) - [**2183-4-20**] 09:15 PM
   Haloperidol (Haldol) - [**2183-4-21**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-21**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 104 (90 - 155) bpm
   BP: 119/51(72) {92/42(56) - 135/69(195)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 11 (11 - 31)mmHg
   Total In:
                                                                    440 mL
                                                                     66 mL
   PO:
   TF:
   IVF:
                                                                    440 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  5,600 mL
                                                                    700 mL
   Urine:
                                                                  5,600 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,160 mL
                                                                   -634 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (310 - 654) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.45/56/76.[**Numeric Identifier 126**]/34/12
   Ve: 9.7 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen: weak, shallow breathing
   Lungs: diffuse expiratory wheezes, moderate air movement
   Heart: s1/s2 present, no murmurs
   Abd: +BS, soft, NT
   Ext: no LE edema
   Labs / Radiology
   [**2183-4-20**] CXR:
   Hilar vessels appear slightly more engorged and indistinct, and
   subtle areas of perihilar haziness have developed suggesting
   interstitial
   edema. Patchy left retrocardiac opacity is unchanged since recent
   radiographs, and areas of linear opacity in the left mid and lower lung
   are
   also similar as well as a small left pleural effusion and pleural
   thickening.
   Postoperative changes in the right hemithorax are unchanged.
   129 K/uL
   11.5 g/dL
   103 mg/dL
   1.4 mg/dL
   34 mEq/L
   3.9 mEq/L
   43 mg/dL
   100 mEq/L
   144 mEq/L
   33.8 %
   17.9 K/uL
        [image002.jpg]
                             [**2183-4-19**]  02:36 PM
                             [**2183-4-19**]  09:50 PM
                             [**2183-4-20**]  03:24 AM
                             [**2183-4-20**]  03:47 AM
                             [**2183-4-20**]  09:02 AM
                             [**2183-4-20**]  03:22 PM
                             [**2183-4-20**]  03:30 PM
                             [**2183-4-20**]  10:50 PM
                             [**2183-4-21**]  04:38 AM
                             [**2183-4-21**]  05:02 AM
   WBC
   15.6
   17.9
   Hct
   31.5
   33.8
   Plt
   110
   129
   Cr
   1.3
   1.5
   1.4
   TropT
   0.07
   TCO2
   28
   28
   33
   35
   35
   41
   40
   Glucose
   110
   158
   103
   Other labs: PT / PTT / INR:11.9/35.0/1.0, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:26/26, Alk Phos / T Bili:56/1.1,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:269
   IU/L, Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FLUTTER (AFLUTTER)
 CELLULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, OTHER
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 68 yo male with a history of COPD on home O2, CAD, s/p CABG
   presented to OSH with dyspnea and hypotension requirng rapid intubation
   and vasopressors transferred to [**Hospital1 19**] for further management and
   determined to have MRSA bacteremia and MRSA PNA.
   .
    ## Sepsis: Related to MRSA bactermia and MRSA PNA. Hemodynamics
   currently stable.
    -f/u cultures, continue vancomycin
   -f/u [**Location (un) **] for OSH cultures
   .
   ## Hypercarbic Resp Failure: Likely multifactorial
PNA, COPD, CHF.
   Pneumonia most significant contributor. Does not appear to be having
   COPD exacerbation. Remains mildly volume overloaded.
   --chest PT
   --BIPAP for now. Trying to avoid intubation.
   --neb treatment, use mucomyst
   --aggressive pulm toilet
   .
   ## ICU Delirium:  Infection, underlying dementia contributing
   --Haldol standing
   --Follow QTc
   --c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] psych
   .
   ## Cellulitus: Vancomycin
   .
   ## Pain with Swallowing:  Failed swallow.
   --Place PICC and start TPN to provide nutrition.
   --ENT to eval swallowing pain
   --Start fluc 200 IV daily for presumed [**Female First Name (un) **] esophagitis
   .
    ## COPD: Recent hospitalization for exacerbation. Has been finishing a
   prednisone taper.
   --ipratropium nebs Q6
   --albuterol nebs Q4:PRN
   --continue prednisone 40mg daily
   .
    ## Afib w/ RVR: H/O Afib.:  Rapid tachycardias occurring
   intermittently
   -change amio to IV given trouble with swallowing
   -begin dilt gtt  IF change to amio gtt not effective
   -cont dig at home dose 125mcg MWF, monitor renal [**Last Name (LF) **], [**First Name3 (LF) **] need to
   decrease dose (dig level nl)
   -check in with EP who was initially consulted
   -also touch base with outpt EP cardiologist
   .
    ## Thrush: Presume esophagitis
   -start fluc 200 IV daily
   -magic mouthwash
   .
   ## CAD,s/p CABG: No active issues
   --cont [**Last Name (LF) **], [**First Name3 (LF) **]
   ICU Care
   Nutrition: Start TPN
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-4-17**] 01:08 AM
   Multi Lumen - [**2183-4-17**] 04:38 PM
   Prophylaxis:
   DVT:  SC Hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Addendum to Plan:
   --Will hold off on ENT c/s for now and see if fluc improves pain w/
   swallowing
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 7999**], MD
   on:[**2183-4-21**] 11:13 ------

2183-04-21 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    unchanged from prior notes
   24 Hour Events:
   Continues to have delirium which does not appear far off baseline,
   responding to haldol and neurontin
   Demonstrating difficulty swallowing
   ENT to evaluate given recent history of thrush and traumatic TEE
   Seen by SLP service and found to be severe aspiration risk
   became more short of breath with atrial tachycardia, minimal response
   to lasix 20 iv x 2 and BiPap, given lopressor 5 x 3 following by dilt
   10 with resumptio of sinus rhythm.  Increased amiodarone.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2183-4-19**] 12:26 PM
   Cefipime - [**2183-4-19**] 11:51 PM
   Vancomycin - [**2183-4-21**] 07:47 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2183-4-20**] 03:20 PM
   Metoprolol - [**2183-4-20**] 03:32 PM
   Diazepam (Valium) - [**2183-4-20**] 03:42 PM
   Haloperidol (Haldol) - [**2183-4-21**] 02:30 AM
   Heparin Sodium (Prophylaxis) - [**2183-4-21**] 08:02 AM
   Furosemide (Lasix) - [**2183-4-21**] 08:14 AM
   Other medications:
   pantoprazole
   heparin sq tid
   prednisone 40 qday
   nystatin
   insulin ss
   synthroid
   plavix 75
   rosuvastatin
   asa 325mg
   digoxin 0.[**Age over 90 **] m/w/f
   vanc 750 IV BID
   atrovent
   neurontin 100 qhs
   amiodarone 400 [**Hospital1 **]
   lasix 20 iv qday
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-21**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 110 (90 - 155) bpm
   BP: 90-135/50-60 mmHg
   RR: 27 (17 - 37) insp/min
   SpO2: 94%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 11 (11 - 31)mmHg
   Total In:
                                                                    440 mL
                                                                    355 mL
   PO:
   TF:
   IVF:
                                                                    440 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  5,600 mL
                                                                  1,700 mL
   Urine:
                                                                  5,600 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,160 mL
                                                                 -1,345 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 358 (358 - 654) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.45/56/76.[**Numeric Identifier 126**]/34/12
   Ve: 9.7 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished, mild aggitation
   HEENT: PERRL, EOMI, + posterior pharyngeal erythema, no identifiable
   lesions
   Cardiovascular: (S1: Normal), (S2: Normal)
   CHEST: rhonchorous breath sounds LLL
   Abd; Soft, nt, nd
   EXT: wwp, no c/c/e
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Skin:  warm, dry
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Oriented (to): person, place, time, Movement: moving all four
   extremities, Tone: weak
   Labs / Radiology
   11.5 g/dL
   129 K/uL
   103 mg/dL
   1.4 mg/dL
   34 mEq/L
   3.9 mEq/L
   43 mg/dL
   100 mEq/L
   144 mEq/L
   33.8 %
   17.9 K/uL
        [image002.jpg]
                             [**2183-4-19**]  02:36 PM
                             [**2183-4-19**]  09:50 PM
                             [**2183-4-20**]  03:24 AM
                             [**2183-4-20**]  03:47 AM
                             [**2183-4-20**]  09:02 AM
                             [**2183-4-20**]  03:22 PM
                             [**2183-4-20**]  03:30 PM
                             [**2183-4-20**]  10:50 PM
                             [**2183-4-21**]  04:38 AM
                             [**2183-4-21**]  05:02 AM
   WBC
   15.6
   17.9
   Hct
   31.5
   33.8
   Plt
   110
   129
   Cr
   1.3
   1.5
   1.4
   TropT
   0.07
   TCO2
   28
   28
   33
   35
   35
   41
   40
   Glucose
   110
   158
   103
   Other labs: PT / PTT / INR:11.9/35.0/1.0, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:26/26, Alk Phos / T Bili:56/1.1,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:269
   IU/L, Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   68 yo M COPD, CHF, AS, s/p RUL lobectomy, s/p CABG, presents with MRSA
   bacteremia and pneumonia.
   1. Respiratory failure: [**2-25**] MRSA pneumonia on top of COPD, c/b
   hypercarbic respiratory failure requiring bipap
    - cont vanc with levels 15-20
    - chest PT
    - oob to chair if possible
    - cont pred 40 with plan to taper once no longer bipap-dependent
    - bipap as tolerated
    - standing haldol 2 mg q 8 for aggitation
   2. Aggitation/delirium:
    - ICU delirium and hypercarbic respiratory failure
    - cont standing zydis+ PRN
    - [**Female First Name (un) **]-psych consult
   3. oral pain/dysphagia:
    - SLP eval
    - NPO
    - PICC consult for TPN for nutrition
    - fluc for possible esophageal thrush
   4. Afib/atrial tachycardia:
    - amiodarone increased to 400 [**Hospital1 **]
    - dig restarted
    - serial ekg to monitor Qtc
    - close monitoring volume status
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2183-4-17**] 01:08 AM
   Multi Lumen - [**2183-4-17**] 04:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed yes
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  45 minutes
   Patient is critically ill

2183-04-22 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2183-4-21**] 02:27 PM
 MULTI LUMEN - STOP [**2183-4-21**] 08:00 PM
   --PICC line placed, IJ removed
   -TPN started
   -fluc 200mg IV daily started
   -standing lasix discontinued
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2183-4-19**] 11:51 PM
   Vancomycin - [**2183-4-21**] 07:47 AM
   Fluconazole - [**2183-4-21**] 05:04 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2183-4-21**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2183-4-21**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-22**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 100 (98 - 120) bpm
   BP: 116/65(83) {75/42(63) - 132/80(98)} mmHg
   RR: 25 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 16 (11 - 16)mmHg
   Total In:
                                                                    725 mL
                                                                    180 mL
   PO:
   TF:
   IVF:
                                                                    725 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    630 mL
   Urine:
                                                                  3,150 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,425 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   128 K/uL
   11.2 g/dL
   177 mg/dL
   1.4 mg/dL
   39 mEq/L
   3.4 mEq/L
   38 mg/dL
   100 mEq/L
   145 mEq/L
   35.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2183-4-19**]  09:50 PM
                             [**2183-4-20**]  03:24 AM
                             [**2183-4-20**]  03:47 AM
                             [**2183-4-20**]  09:02 AM
                             [**2183-4-20**]  03:22 PM
                             [**2183-4-20**]  03:30 PM
                             [**2183-4-20**]  10:50 PM
                             [**2183-4-21**]  04:38 AM
                             [**2183-4-21**]  05:02 AM
                             [**2183-4-22**]  05:42 AM
   WBC
   15.6
   17.9
   15.3
   Hct
   31.5
   33.8
   35.0
   Plt
   110
   129
   128
   Cr
   1.3
   1.5
   1.4
   1.4
   TropT
   0.07
   TCO2
   28
   33
   35
   35
   41
   40
   Glucose
   110
   158
   103
   177
   Other labs: PT / PTT / INR:11.9/35.0/1.0, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:26/26, Alk Phos / T Bili:56/1.1,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:269
   IU/L, Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FLUTTER (AFLUTTER)
 CELLULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, OTHER
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 68 yo male with a history of COPD on home O2, CAD, s/p CABG
   presented to OSH with dyspnea and hypotension requirng rapid intubation
   and vasopressors transferred to [**Hospital1 19**] for further management and
   determined to have MRSA bacteremia and MRSA PNA.
   ## Sepsis: Related to MRSA bactermia and MRSA PNA. Hemodynamics
   currently stable.
    -f/u cultures, continue vancomycin
   -f/u [**Location (un) **] for OSH cultures
   ## Hypercarbic Resp Failure: Likely multifactorial
PNA, COPD, CHF.
   Pneumonia most significant contributor. Does not appear to be having
   COPD exacerbation. Remains mildly volume overloaded.
   --chest PT
   --BIPAP for now. Trying to avoid intubation.
   --neb treatment, use mucomyst
   --aggressive pulm toilet
   ## ICU Delirium:  Infection, underlying dementia contributing
   --Haldol standing
   --Follow QTc
   --c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] psych
   ## Cellulitus: Vancomycin
   ## Pain with Swallowing:  Failed swallow.
   --Place PICC and start TPN to provide nutrition.
   --ENT to eval swallowing pain
   --Start fluc 200 IV daily for presumed [**Female First Name (un) **] esophagitis
    ## COPD: Recent hospitalization for exacerbation. Has been finishing a
   prednisone taper.
   --ipratropium nebs Q6
   --albuterol nebs Q4:PRN
   --continue prednisone 40mg daily
    ## Afib w/ RVR: H/O Afib.:  Rapid tachycardias occurring
   intermittently
   -change amio to IV given trouble with swallowing
   -begin dilt gtt  IF change to amio gtt not effective
   -cont dig at home dose 125mcg MWF, monitor renal [**Last Name (LF) **], [**First Name3 (LF) **] need to
   decrease dose (dig level nl)
   -check in with EP who was initially consulted
   -also touch base with outpt EP cardiologist
    ## Thrush: Presume esophagitis
   -start fluc 200 IV daily
   -magic mouthwash
   ## CAD,s/p CABG: No active issues
   --cont [**Last Name (LF) **], [**First Name3 (LF) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-4-17**] 01:08 AM
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-04-22 11:01:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Staph Sepsis, COPD, CHF
   24 Hour Events:
   PICC placed for TPN
   IJ removed
   started fluconazole for thrush
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2183-4-19**] 11:51 PM
   Fluconazole - [**2183-4-21**] 05:04 PM
   Vancomycin - [**2183-4-22**] 10:12 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-4-22**] 09:06 AM
   Other medications:
   heparin sq tid
   nystatin oral suspension
   vanc 1 g q 24
   fluconazole 200 q 24
   lanzoprazole 30
   solumedrol 60 q 24
   riss
   (synthroid)
   (ASA)
   (Synthroid)
   (dig 0.125)
   (neurontin)
   mucomyst nebs
   amiodarone gtt
   olanzapine 5 mg [**Hospital1 7**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Flowsheet Data as of  [**2183-4-22**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 103 (98 - 120) bpm
   BP: 131/60(82) {75/42(63) - 156/145(151)} mmHg
   RR: 24 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 16 (13 - 16)mmHg
   Total In:
                                                                    725 mL
                                                                    585 mL
   PO:
   TF:
   IVF:
                                                                    725 mL
                                                                    437 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    990 mL
   Urine:
                                                                  3,150 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,425 mL
                                                                   -405 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : bilaterally,
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   11.2 g/dL
   128 K/uL
   177 mg/dL
   1.4 mg/dL
   39 mEq/L
   3.4 mEq/L
   38 mg/dL
   100 mEq/L
   145 mEq/L
   35.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2183-4-19**]  09:50 PM
                             [**2183-4-20**]  03:24 AM
                             [**2183-4-20**]  03:47 AM
                             [**2183-4-20**]  09:02 AM
                             [**2183-4-20**]  03:22 PM
                             [**2183-4-20**]  03:30 PM
                             [**2183-4-20**]  10:50 PM
                             [**2183-4-21**]  04:38 AM
                             [**2183-4-21**]  05:02 AM
                             [**2183-4-22**]  05:42 AM
   WBC
   15.6
   17.9
   15.3
   Hct
   31.5
   33.8
   35.0
   Plt
   110
   129
   128
   Cr
   1.3
   1.5
   1.4
   1.4
   TropT
   0.07
   TCO2
   28
   33
   35
   35
   41
   40
   Glucose
   110
   158
   103
   177
   Other labs: PT / PTT / INR:11.9/35.0/1.0, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:26/26, Alk Phos / T Bili:56/1.1,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:269
   IU/L, Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Microbiology: Urine [**4-19**] - ngtd
   Assessment and Plan
   1. Sepsis/mrsa bacteremia/PNA:
    - cont vancomycin x 2 weeks
    - aggressive chest PT
    - mucomyst as tolerated
    - surveillance cultures
   2. COPD:
    - increase steroids to solumedrol 80 q 8
    - cont standing nebs
    - f/u ABG
    - bipap as needed
    - aim TBB - 500
   3. AFib RVR
    - cont IV amiodarone
    - switch to PO when tolerating
   4. CAD:
    - cont asa, holding plavix while NPO
    - touch base with home cardiologist
   5. Delirium:
    - cont standing zydis
   6. FEN: npo per slp, will place doboff, tube feeds, tpn
   ICU Care
   Nutrition:
   TPN without Lipids - [**2183-4-22**] 07:00 AM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2183-4-17**] 01:08 AM
   PICC Line - [**2183-4-21**] 02:27 PM
   22 Gauge - [**2183-4-22**] 10:13 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-04-23 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   ---NJ placed by IR
   ---nutrition to do a video assisted swallow tomorrow
   --gave 20 IV lasix 1830 given pt sounding wet and not yet -500mL
   --atrial tach to 160's. Gave metoprolol 5mg IV x 3 without much
   imrovement, then diltiazem 10mg IV x 1 with transient sinus, then
   loaded with amiodarone 150mg IV x 1 which has kept him in sinus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-4-22**] 10:12 AM
   Fluconazole - [**2183-4-22**] 06:01 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-4-22**] 07:01 PM
   Heparin Sodium (Prophylaxis) - [**2183-4-22**] 10:00 PM
   Metoprolol - [**2183-4-23**] 04:50 AM
   Diltiazem - [**2183-4-23**] 05:15 AM
   Amiodarone - [**2183-4-23**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-23**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.4
C (95.7
   HR: 76 (76 - 145) bpm
   BP: 133/64(87) {101/59(77) - 170/159(164)} mmHg
   RR: 23 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  1,724 mL
                                                                    239 mL
   PO:
             TF:
   IVF:
                                                                    937 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  3,005 mL
                                                                    700 mL
   Urine:
                                                                  3,005 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,281 mL
                                                                   -461 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 100%
   ABG: 7.45/58/81.[**Numeric Identifier 218**]/36/13
   PaO2 / FiO2: 203
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   11.0 g/dL
   221 mg/dL
   1.4 mg/dL
   36 mEq/L
   3.5 mEq/L
   43 mg/dL
   103 mEq/L
   148 mEq/L
   34.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2183-4-20**]  03:47 AM
                             [**2183-4-20**]  09:02 AM
                             [**2183-4-20**]  03:22 PM
                             [**2183-4-20**]  03:30 PM
                             [**2183-4-20**]  10:50 PM
                             [**2183-4-21**]  04:38 AM
                             [**2183-4-21**]  05:02 AM
                             [**2183-4-22**]  05:42 AM
                             [**2183-4-22**]  10:58 AM
                             [**2183-4-23**]  03:06 AM
   WBC
   17.9
   15.3
   10.0
   Hct
   33.8
   35.0
   34.6
   Plt
   129
   128
   127
   Cr
   1.5
   1.4
   1.4
   1.4
   TropT
   0.07
   TCO2
   33
   35
   35
   41
   40
   42
   Glucose
   158
   103
   177
   221
   Other labs: PT / PTT / INR:11.9/35.0/1.0, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:26/26, Alk Phos / T Bili:56/1.1,
   Differential-Neuts:95.7 %, Lymph:2.6 %, Mono:1.5 %, Eos:0.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:269
   IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FLUTTER (AFLUTTER)
 CELLULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, OTHER
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   .
   This is a 68 yo male with a history of COPD on home O2, CAD, s/p CABG
   presented to OSH with dyspnea and hypotension requirng rapid intubation
   and vasopressors transferred to [**Hospital1 19**] for further management and
   determined to have MRSA bacteremia and MRSA PNA.
   ## MRSA bacteremia/MRSA PNA:
   --Cont vancomycin for total 4 wk course
   ## Atrial Tachycardia: Tachycardic o/n eventually improved with Amio
   bolus
   --cont Amio 400 [**Hospital1 7**]
   --start diltiazem 30mg po qid
   ##COPD Exacerbation: Likely related to severe MRSA PNA.
   -Switch to prednisone 60mg daily with a plan for a quick taper (daily
   taper) to 20mg daily
   -Q4hrs standing nebs, and q2hr prn xopenex
   -Chest PT
   -goal I/O -500cc today
   # CHF: start lasix 40mg po daily, on 40mg po bid at home
   ## ICU Delirium:  MS close to baseline Infection, underlying dementia
   contributing
   -prn zydis
   ## Nutrition: NJ tube placed and TF started
   --advance to goal
    ## Thrush: Presumed esophagitis
   -cont fluc 200 PO daily x 1-2 weeks
   -magic mouthwash
   ## CAD,s/p CABG: No active issues
   --cont [**Last Name (LF) **], [**First Name3 (LF) **]
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-4-22**] 08:30 PM, stop TPN
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-4-17**] 01:08 AM
   PICC Line - [**2183-4-21**] 02:27 PM
   22 Gauge - [**2183-4-22**] 10:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined Mr [**Known lastname 14169**] and concur with Dr [**First Name (STitle) 568**]
   assessment above.
   He is more lucid and has the ability to expectorate thick blood tinged
   mucus when sitting upright. He is quite dyspneic with minimal exertion
   but denies chest pain. He is AAO X 3 now!
   He has improved air entry at lung bases and no edema. His WBC is normal
   but Na is up to 148.
   He will have tube feeds started, TPN weaned and attempts to get him
   OOB.
   I suspect he will need transfer to rehab this week if there are no
   further setbacks.
   We will start Diltiazem for HR control since amiodarone has yet not
   been able to preclude atrial tachycardia completely.
   CC time: 40 mins
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **], M.D.
   Pulmonary , Critical Care and Sleep Medicine.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2183-4-23**] 12:43 ------

2183-04-26 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EP: 24 hrs of IV amio at 0.5mg/min, if not ectopy then switch to
   quinidine 324 TID and check level in 2 days
   Placed Dobhoff, verified location in stomach
   sodium improved at 1500
   Required multiple doses of haldol for extreme agitation
   QTc 553 yesterday
   Stopped fluconazole
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-4-25**] 08:10 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-4-25**] 10:00 PM
   Haloperidol (Haldol) - [**2183-4-25**] 10:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-26**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 82 (80 - 106) bpm
   BP: 106/51(63) {83/33(50) - 134/90(99)} mmHg
   RR: 18 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  2,541 mL
                                                                    337 mL
   PO:
             TF:
                                                                    546 mL
                                                                    264 mL
   IVF:
                                                                  1,715 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    390 mL
   Urine:
                                                                  1,360 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,181 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.50/48/46/37/11
   PaO2 / FiO2: 92
   Physical Examination
   Gen: sleeping, arousable
   Heart: s1/s2 present, no murmurs
   Lung: Anterior exam with end expiratory wheezing
   LE: no edema, 2+ pulses
   Labs / Radiology
   109 K/uL
   10.6 g/dL
   197 mg/dL
   1.8 mg/dL
   37 mEq/L
   3.7 mEq/L
   48 mg/dL
   103 mEq/L
   145 mEq/L
   34.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2183-4-21**]  04:38 AM
                             [**2183-4-21**]  05:02 AM
                             [**2183-4-22**]  05:42 AM
                             [**2183-4-22**]  10:58 AM
                             [**2183-4-23**]  03:06 AM
                             [**2183-4-23**]  07:49 PM
                             [**2183-4-24**]  04:00 AM
                             [**2183-4-25**]  04:11 AM
                             [**2183-4-25**]  02:53 PM
                             [**2183-4-25**]  05:51 PM
   WBC
   17.9
   15.3
   10.0
   18.0
   16.3
   Hct
   33.8
   35.0
   34.6
   35.0
   34.4
   Plt
   129
   128
   127
   141
   109
   Cr
   1.4
   1.4
   1.4
   1.6
   1.8
   1.9
   1.8
   TCO2
   40
   42
   39
   Glucose
   103
   177
   221
   183
   168
   153
   197
   Other labs: PT / PTT / INR:12.0/32.5/1.0, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:26/26, Alk Phos / T Bili:56/1.1,
   Differential-Neuts:95.7 %, Lymph:2.6 %, Mono:1.5 %, Eos:0.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:269
   IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 68 yo male with a history of COPD on home O2, CAD, s/p CABG
   presented to OSH with dyspnea and hypotension requirng rapid intubation
   and vasopressors transferred to [**Hospital1 19**] for further management and
   determined to have MRSA bacteremia and MRSA PNA.
   .
   ## Hypoxia: related to COPD exacerbation and MRSA pneumonia.  Stable
   but slow to improve.
   -continue vancomycin x 6 weeks given cardiac hardware (PPM)
   -taper prednisone to 40mg po daily continue standing nebs
   -f/u cxs (all neg to date)
   .
   # ICU Delirium: Sundowns from [**5-30**] at baseline. Likely multifactorial:
   infection, steroids, being in ICU. Required multiple doses of haldol
   yesterday.
   --cont haldol standing 2mg Q8
   --olanzapine DC'd
   # Atrial Tachycardia:  EP recommended restarting amiodarone gt at
   0.5mg/min for 24 hrs and if no ectopy switching back to quinidine
   --assess telemetry
   --cont amio gtt for now
   --stop digoxin given ARF
   --cont diltiazem
   --f/u EP recs
   .
   # Hypovolemia: Now 1.2L positive overnight
   --give free water flushes
   --check PM lytes
   .
   #Prolonged QT: Fluconazole and olanzapine DC'd.
   --check daily ECG
   --replete Mg and K
   .
   # Acute renal failure: Due to hypovolemia
   - 1/2NS at 150cc/hr
   .
   # Nutrition: Dobhoff replaced and TF restarted
   --taking minimal purees, still coughing
   --talk to speech and swallow about re-eval
   .
   ## CAD,s/p CABG: No active issues
   --cont [**Last Name (LF) **], [**First Name3 (LF) **]
   .
   # Dispo: rehab screening
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-4-25**] 03:30 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   22 Gauge - [**2183-4-22**] 10:13 AM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:  Lansoprazole
   VAP:
   Comments:
   Communication:  Wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now, being screened for rehab

2183-04-26 11:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   started on amiodarone gtt with plans for eventual switch to quinidine
   if no further ectopy
   intermittent aggitation
   doboff placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-4-26**] 09:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2183-4-25**] 10:36 PM
   Heparin Sodium (Prophylaxis) - [**2183-4-26**] 09:00 AM
   Other medications:
   heparin
   riss
   [**Year (4 digits) **]
   crestor
   digoxin 0.125
   neurontin
   vanc 1 g q 24
   lansoprazole
   synthroid
   [**Year (4 digits) 5**] 325 qday
   PEG
   dilt 60 qid
   albuterol/atrovent
   amiodarone
   pred 40 qday
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-26**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 84 (80 - 106) bpm
   BP: 107/44(59) {69/33(50) - 134/90(99)} mmHg
   RR: 22 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  2,541 mL
                                                                  1,180 mL
   PO:
             TF:
                                                                    546 mL
                                                                    510 mL
   IVF:
                                                                  1,715 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                    688 mL
   Urine:
                                                                  1,360 mL
                                                                    688 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,181 mL
                                                                    492 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.50/48/46/36/11
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Thin, Anxious, intermittent aggitation
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiratory wheeze)
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   No(t) Oriented (to): , Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   11.0 g/dL
   124 K/uL
   152 mg/dL
   1.8 mg/dL
   36 mEq/L
   4.0 mEq/L
   48 mg/dL
   105 mEq/L
   148 mEq/L
   33.8 %
   17.8 K/uL
        [image002.jpg]
                             [**2183-4-21**]  05:02 AM
                             [**2183-4-22**]  05:42 AM
                             [**2183-4-22**]  10:58 AM
                             [**2183-4-23**]  03:06 AM
                             [**2183-4-23**]  07:49 PM
                             [**2183-4-24**]  04:00 AM
                             [**2183-4-25**]  04:11 AM
                             [**2183-4-25**]  02:53 PM
                             [**2183-4-25**]  05:51 PM
                             [**2183-4-26**]  05:23 AM
   WBC
   15.3
   10.0
   18.0
   16.3
   17.8
   Hct
   35.0
   34.6
   35.0
   34.4
   33.8
   Plt
   128
   127
   141
   109
   124
   Cr
   1.4
   1.4
   1.6
   1.8
   1.9
   1.8
   1.8
   TCO2
   40
   42
   39
   Glucose
   177
   221
   183
   168
   153
   197
   152
   Other labs: PT / PTT / INR:12.0/32.5/1.0, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:26/26, Alk Phos / T Bili:56/1.1,
   Differential-Neuts:95.7 %, Lymph:2.6 %, Mono:1.5 %, Eos:0.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:269
   IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68 yo M CAD, cardiomyopathy, arrhthmia, COPD, here with MRSA pna after
   recent hospital stay for COPD exacerbation
   1. respiratory failure: COPD exacerbation in setting of pneumonia.
   Still has some expiratory wheeze today
    - cont prednisone 40 mg today, taper as able
    - cont vanc
    - cont chest pt
   2. Delirium: infection, ICU, steroids
     - haldol 2 mg IV q 8 hr with PRNs
   3. Atrial tachycardia:
    - cont amio gtt x 24 hours
    - would d/c dig
   4. Hypovolemia/hypernatremia:
    - 1.2L positive overnight
    - cont FWB + 1/2NS at 150
    - ivf bolus to maintain UOP > 30cc/hr
    - pm lytes
   5. prolonged QTc:
    - daily ekg
    - Mg>2, K>4
   6. Increased Cr: likely pre-renal [**2-25**] dehydration ([**Location 1658**] 3L)
   7. FEN: not tolerated PO diet, f/u SLP, cont tube feeds
   8. CAD: cont [**Location **]/[**Location 5**]
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-4-25**] 03:30 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   22 Gauge - [**2183-4-22**] 10:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-04-27 05:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: SOB
   24 Hour Events:
   [**2183-4-26**]:
   -Per cardiology initial recs: complete 24 hours of amio gtt without
   tachyarrhythmia; start on quinidine 324 mg q8h (will check level with
   morning labs on [**2183-4-28**]); discontinued diltiazem and restarted toprol 25
   mg daily
   -Unfortunately can't use Toprol or Quinidine ER with dobhoff; switched
   to metoprolol 25 mg po bid, short acting quinidine sulfate 200 mg q6h
   is equivalent to quinaglute 324 mg po q8h.  Verified with EP fellow.
   Due to QTc > 450 decision was made to hold quinidine for 24 hours.
   -Start standing q1700 haldol 2 mg IV and haldol tid prn agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-4-26**] 09:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2183-4-26**] 03:34 PM
   Heparin Sodium (Prophylaxis) - [**2183-4-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-27**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.2
   HR: 80 (80 - 86) bpm
   BP: 118/54(68) {69/40(52) - 118/55(68)} mmHg
   RR: 37 (17 - 37) insp/min
   SpO2: 94%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
                  Total In:
                                                                  4,247 mL
                                                                    516 mL
   PO:
                  TF:
                                                                  1,081 mL
                                                                    266 mL
   IVF:
                                                                  2,175 mL
   Blood products:
   Total out:
                                                                  1,393 mL
                                                                    300 mL
   Urine:
                                                                  1,393 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,854 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   Gen: sleeping, arousable
   Heart: s1/s2 present, no murmurs
   Lung: Anterior exam with end expiratory wheezing
   LE: no edema, 2+ pulses
   Labs / Radiology
   130 K/uL
   10.8 g/dL
   183 mg/dL
   1.8 mg/dL
   34 mEq/L
   4.3 mEq/L
   46 mg/dL
   102 mEq/L
   143 mEq/L
   33.6 %
   18.7 K/uL
        [image002.jpg]
                             [**2183-4-22**]  10:58 AM
                             [**2183-4-23**]  03:06 AM
                             [**2183-4-23**]  07:49 PM
                             [**2183-4-24**]  04:00 AM
                             [**2183-4-25**]  04:11 AM
                             [**2183-4-25**]  02:53 PM
                             [**2183-4-25**]  05:51 PM
                             [**2183-4-26**]  05:23 AM
                             [**2183-4-26**]  05:40 PM
                             [**2183-4-27**]  04:41 AM
   WBC
   10.0
   18.0
   16.3
   17.8
   18.7
   Hct
   34.6
   35.0
   34.4
   33.8
   33.6
   Plt
   127
   141
   109
   124
   130
   Cr
   1.4
   1.6
   1.8
   1.9
   1.8
   1.8
   1.8
   TCO2
   42
   39
   Glucose
   221
   183
   168
   153
   197
   152
   183
   Other labs: PT / PTT / INR:12.0/32.5/1.0, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:26/26, Alk Phos / T Bili:56/1.1,
   Differential-Neuts:95.7 %, Lymph:2.6 %, Mono:1.5 %, Eos:0.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:269
   IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FLUTTER (AFLUTTER)
 CELLULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, OTHER
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 68 yo male with a history of COPD on home O2, CAD, s/p CABG
   presented to OSH with dyspnea and hypotension requirng rapid intubation
   and vasopressors transferred to [**Hospital1 19**] for further management and
   determined to have MRSA bacteremia and MRSA PNA.
   .
   ## Hypoxia: related to COPD exacerbation and MRSA pneumonia.  Stable
   but slow to improve.
   -continue vancomycin x 6 weeks given cardiac hardware (PPM)
   -taper prednisone to 40mg po daily continue standing nebs
   -f/u cxs (all neg to date)
   -repeat CXR this am as some intermittent hypoxia
   .
   # ICU Delirium: Sundowns from [**5-30**] at baseline. Likely multifactorial:
   infection, steroids, being in ICU. Required multiple doses of haldol
   yesterday.
   --scheduled haldol 2 mg IV at 1500 to 1600 in anticipation of
   sundowning
   --minimize haldol prn as he has prolonged QTc
   --if necessary consider seroquel
   # Atrial Tachycardia:  EP recommended amiodarone gt at 0.5mg/min for 24
   hrs and if no tachyarrhythmia switching back to quinidine.  Patient
   completed 24 hours of amio gtt with arrhythmia.  However, patient
s QTc
   remains prolonged > 450.  EP fellow recommended discontinuing amio gtt
   and holding quinidine until QTc < 450.
   --monitor [**Hospital1 **] EKG
   --assess telemetry
   --stop digoxin given ARF
   --stop standing diltiazem; restarted metoprolol (must use tartrate for
   dobhoff)
   --f/u EP recs
   .
   # Hypovolemia: improved; 2.8L positive overnight; hypernatremia and
   creatinine improved.
   --continue  free water flushes
   --check PM lytes
   .
   #Prolonged QT: Fluconazole and olanzapine DC'd.
   -- minimize prn haldol
   --check daily ECG
   --replete Mg and K
   .
   # Acute renal failure: Due to hypovolemia, improved with volume
   resuscitation.
   - continue to trend
   - renally dose meds
   .
   # Nutrition: Dobhoff replaced and TF restarted
   --taking minimal purees, still coughing
   --talk to speech and swallow about re-eval
   .
   ## CAD,s/p CABG: No active issues
   --cont [**Last Name (LF) **], [**First Name3 (LF) **]
   .
   # Dispo: rehab screening
   ICU Care
   Nutrition: Tube feeds
   NovaSource Renal (Full) - [**2183-4-26**] 03:27 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: ppi
   VAP:  mouth care and nystatin for likely thrush
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending placement

2183-04-30 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-4-30**] 04:10 AM
   - ABG at 1pm [**4-29**] was 7.32/75/78, but patient breathing comfortably,
   mental status good - likely large chronic component
   - Psych recs: can consider depakote if concern for agitation. Obtain
   outpatient neuro records to get understand of baseline cognitive
   deficits
   - Did not yet restart quinidine as needs to take full pills PO
   - Given 250mg PO valproic acid overnight for agitation after
   redirection not effective
   - 3:30am, having more intermittent asymptomatic tachycardia up to
   140-150s but self resolved without treatment
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-4-29**] 09:12 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-4-29**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-30**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 92 (80 - 150) bpm
   BP: 118/47(63) {91/43(53) - 119/55(69)} mmHg
   RR: 28 (19 - 44) insp/min
   SpO2: 95%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  1,931 mL
                                                                    339 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    305 mL
   IVF:
                                                                    280 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    415 mL
   Urine:
                                                                  1,395 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    536 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.32/75/77.[**Numeric Identifier 143**]/40/8
   PaO2 / FiO2: 195
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   10.5 g/dL
   159 mg/dL
   1.3 mg/dL
   40 mEq/L
   4.2 mEq/L
   34 mg/dL
   101 mEq/L
   144 mEq/L
   32.3 %
   11.6 K/uL
        [image002.jpg]
                             [**2183-4-25**]  04:11 AM
                             [**2183-4-25**]  02:53 PM
                             [**2183-4-25**]  05:51 PM
                             [**2183-4-26**]  05:23 AM
                             [**2183-4-26**]  05:40 PM
                             [**2183-4-27**]  04:41 AM
                             [**2183-4-28**]  04:10 AM
                             [**2183-4-29**]  03:19 AM
                             [**2183-4-29**]  01:25 PM
                             [**2183-4-30**]  03:02 AM
   WBC
   16.3
   17.8
   18.7
   16.5
   14.3
   11.6
   Hct
   34.4
   33.8
   33.6
   34.9
   34.1
   32.3
   Plt
   109
   124
   130
   117
   120
   146
   Cr
   1.9
   1.8
   1.8
   1.8
   1.6
   1.5
   1.3
   1.3
   TCO2
   39
   40
   Glucose
   153
   197
   152
   183
   116
   164
   155
   159
   Other labs: PT / PTT / INR:11.1/31.4/0.9, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:39/34, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:95.7 %, Lymph:2.6 %, Mono:1.5 %, Eos:0.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.9 g/dL, LDH:320
   IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FLUTTER (AFLUTTER)
 CELLULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, OTHER
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 68 yo male with a history of COPD on home O2, CAD, s/p CABG
   presented to OSH with dyspnea and hypotension requiring rapid
   intubation and vasopressors transferred to [**Hospital1 19**] for further management
   and determined to have MRSA bacteremia and MRSA PNA.
   # Hypoxia: related to COPD exacerbation and MRSA pneumonia.  Stable but
   slow to improve.
   -continue vancomycin x 6 weeks given cardiac hardware (PPM)
   -prednisone 40mg daily since [**4-25**] - tapered to 20mg daily yesterday
   -standing nebs
   -chest PT
   # ICU Delirium: Sundowns, at home was on xanax prn. Zyprexa did not
   work for him in past. Had possible paradoxical reaction to ativan in
   past
   -- depakote if delirium, did not need any medications last 24 hours,
   continue to monitor
   --taper down steroids as above which may help agitation
   # Atrial Tachycardia:  had been very intolerant given low EF (20%).
   -per EP consult can restart quinidine when hladol is off
   -f/u ECG, restart quinidine (short acting quinidine sulfate 300 mg q8h)
   when QTc < 450ms given atach and h/o VT (pt has ICD as well), need to
   recheck level after 6 doses
   -continue metoprolol at current dose of 25mg po tid
   # Hypovolemia: improving, Cr and Na also improving
   # Acute renal failure: Due to hypovolemia, improved with volume
   resuscitation.
   - continue to trend
   - renally dose meds
   - holding ACEi
   # Nutrition: Dobhoff replaced and TF restarted
   --taking minimal purees, still coughing
   # CAD,s/p CABG: No active issues
   --cont [**Last Name (LF) **], [**First Name3 (LF) **]
   # Dispo: rehab screening, plan to discharge from ICU directly to LTAC
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-4-29**] 03:06 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-04-30 10:09:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, pneumonia, CHF
   24 Hour Events:
   Mr [**Known lastname 14169**] did well overnight with no aggitation requiring sedating
   medications.  His mental status is improving.  He continues to have no
   gag and not able to tolerate PO intake.
   Brief SVT overnight that self-resolved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-4-30**] 08:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-4-29**] 10:07 PM
   Other medications:
   vanc
   prednisone 20
   lopressor
   asa
   miralax
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-4-30**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 84 (80 - 150) bpm
   BP: 100/39(30) {94/39(30) - 119/54(69)} mmHg
   RR: 34 (19 - 44) insp/min
   SpO2: 94%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  1,931 mL
                                                                  1,000 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    446 mL
   IVF:
                                                                    280 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                    615 mL
   Urine:
                                                                  1,395 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    536 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.32/75/77.[**Numeric Identifier 143**]/40/8
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), regular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiratory, Rhonchorous:
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   146 K/uL
   159 mg/dL
   1.3 mg/dL
   40 mEq/L
   4.2 mEq/L
   34 mg/dL
   101 mEq/L
   144 mEq/L
   32.3 %
   11.6 K/uL
         [image002.jpg]
                             [**2183-4-25**]  04:11 AM
                             [**2183-4-25**]  02:53 PM
                             [**2183-4-25**]  05:51 PM
                             [**2183-4-26**]  05:23 AM
                             [**2183-4-26**]  05:40 PM
                             [**2183-4-27**]  04:41 AM
                             [**2183-4-28**]  04:10 AM
                             [**2183-4-29**]  03:19 AM
                             [**2183-4-29**]  01:25 PM
                             [**2183-4-30**]  03:02 AM
   WBC
   16.3
   17.8
   18.7
   16.5
   14.3
   11.6
   Hct
   34.4
   33.8
   33.6
   34.9
   34.1
   32.3
   Plt
   109
   124
   130
   117
   120
   146
   Cr
   1.9
   1.8
   1.8
   1.8
   1.6
   1.5
   1.3
   1.3
   TCO2
   39
   40
   Glucose
   153
   197
   152
   183
   116
   164
   155
   159
   Other labs: PT / PTT / INR:11.1/31.4/0.9, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:39/34, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:95.7 %, Lymph:2.6 %, Mono:1.5 %, Eos:0.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.9 g/dL, LDH:320
   IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   1. Respiratory failure: secondary to mental status, pneumonia, reactive
   airways disease
    - he will need aggressive pulmonary toilet including frequent mouth
   care, chest pt and deep suctioning
    - he will need aspiration precautions including constant elevation of
   head of the bed
    - cont prednisone taper current day [**2-27**] prednisone 20 mg, then 10mg x
   4 then 5 mg x 4
    - cont vancomycin for total 6 weeks course
   2. Arrhythmia:
    - cont lopressor
    - will start quinidine sulfate which can be crushed down doboff tube
   3. aspiration:
    - cont NGtube for nutrition
    - speech pathology to follow
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-4-29**] 03:06 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU level care still needed but possibility of LTAC soon ?
   Total time spent: 35 minutes
   Patient is critically ill

2183-05-01 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hypotensive with slight incr O2 requirement, concern for brewing
   sepsis/asp pna
   - more somnolent over the day, markedly hypercapneic on evening gas,
   tried BiPAP but poor breaths so intubated
   - hypotensive post intubation, fluid and pressor responsive
   - started Zosyn for ?aspiration pna
   - developed rapid afib to 150
s this AM
 initial question of vtach
   loaded with amio but upon further review, likely rapid afib
   Subjective: intubated and sedated, unable to provide hx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-4-30**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-4-30**] 11:56 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-5-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-1**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 81 (80 - 96) bpm
   BP: 104/38(57) {79/31(-1) - 141/47(74)} mmHg
   RR: 21 (17 - 44) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  3,435 mL
                                                                    452 mL
   PO:
             TF:
                                                                    879 mL
   IVF:
                                                                  2,006 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    145 mL
   Urine:
                                                                  1,145 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/55/80.[**Numeric Identifier 176**]/35/12
   Ve: 10.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General: Chronically ill elderly man intubated, slightly tremulous
   HEENT: Anicteric, L pupil>R (baseline anisecoria)
   Neck: Unable to assess JVP
   Lungs: Coarse bilaterally, no wheezing
   CV: Regular S1 S2 soft systolic murmur at base
   Abd: Soft nontender +bowel sounds
   Extrem: Cool, anasarca, palpable distal pulses
   Neuro: Sedated, squeezes R hand to command
   R PICC no erythema or exudate, L A line
   Foley with yellow urine
   Labs / Radiology
   196 K/uL
   9.9 g/dL
   192 mg/dL
   1.6 mg/dL
   35 mEq/L
   4.4 mEq/L
   37 mg/dL
   102 mEq/L
   143 mEq/L
   30.0 %
   14.2 K/uL
                             [**2183-4-26**]  05:40 PM
                             [**2183-4-27**]  04:41 AM
                             [**2183-4-28**]  04:10 AM
                             [**2183-4-29**]  03:19 AM
                             [**2183-4-29**]  01:25 PM
                             [**2183-4-30**]  03:02 AM
                             [**2183-4-30**]  05:33 PM
                             [**2183-4-30**]  10:45 PM
                             [**2183-5-1**]  03:54 AM
                             [**2183-5-1**]  04:50 AM
   WBC
   18.7
   16.5
   14.3
   11.6
   11.0
   14.2
   Hct
   33.6
   34.9
   34.1
   32.3
   31.5
   30.0
   Plt
   130
   117
   120
   146
   143
   196
   Cr
   1.8
   1.6
   1.5
   1.3
   1.3
   1.6
   TCO2
   40
   48
   40
   Glucose
   183
   116
   164
   155
   159
   192
   Other labs: PT / PTT / INR:11.1/31.4/0.9, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:39/34, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:94.8 %, Lymph:2.3 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:320
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.3 mg/dL
   Micro
   [**5-1**] blood cx PENDING
   [**4-30**] sputum >10 epis
   [**4-30**] urine cx PENDING
   [**4-30**] blood cx PENDING
   Assessment and Plan
   This is a 68 yo male with a history of COPD on home O2, CAD, s/p CABG
   presented to OSH with dyspnea and hypotension requiring rapid
   intubation and vasopressors transferred to [**Hospital1 19**] for further management
   and determined to have MRSA bacteremia.
   # Hypotension / Septic Shock
   Concern for septic etiology given elevated WBC today
 possible new
   aspiration pneumonia given abundant secretions and increased O2
   requirement yesterday.  However, lactate has been normal. Would also
   consider contribution from quinidine, though BP remain low despite held
   dose last night. Less likely, cardiogenic or hypovolemic etiology
   however . Does not appear to have significant autopeep/PTX
   - Continue neo to MAP>65
   - Consider vigileo to monitor CvO2, hold on CVL for now
   - Follow urine output, goal 0.5cc/kg/hr
   - Repeat TTE
   - Cycle cardiac enzymes
   - Follow up pending micro, culture if febrile
   - Continue zosyn and vancomycin
 no double coverage for pseudomonas
   for now, but can expand if spikes
   - CT to r/o abcess if any fevers, continued decompensation
   # Afib and h/o Atach
   Episode of tachycardia this AM likely afib, probably exacerbated by
   levophed, infection
   - HOLD quinidine for now per d/w EP, keep patient on amiodarone in
   hospital
   - Continue amio load
   - Will address quinidine again as outpt with EP
   - Follow K, Magnesium closely and replete
   # Hypercarbic respiratory failure, h/o COPD
   Possibly related to pulmonary infection and higher than target O2 sats
   yesterday. He did not recently get any sedating meds
 depakote 1 dose
   the day prior. Acidosis may be [**2-25**] hypotension
   - Continue ventilation, permissive hypercapnia
   - Check resistances
   - Trial of PSV as tolerated later today
   - Continue steroid taper and MDIs
   # Acute kidney injury
   Cr up slightly today. In setting of hypotension, would be concerned for
   ATN. Also consider prerenal from poor cardiac perfusion
   - Repeat PM lytes
   - Follow urine output (keep UOP>30cc/hr)
   - [**Month (only) 51**] check urine lytes
   # MRSA bacteremia
   Patient had cleared his recent blood cultures.
   - Continue vancomycin with planned 6 week duration given ICD, d1=[**4-17**]
   - Follow vancomycin trough with changing renal function
   #Tremulousness
   Ddx rigors vs. toxic/metabolic encephalopathy, less likely seizure
   - Follow for now, if focal signs pursue head imaging consider neuro c/s
   # ICU Delirium: Likely multifactorial related to infection,
   polypharmacy, prolongued ICU stay
   - Hold all sedating meds at this time
   # CAD,s/p CABG: No active issues
   --cont [**Last Name (LF) **], [**First Name3 (LF) **]
   ICU Care
   Nutrition: may consider restarting tube feeds if stable this afternoon
   Glycemic Control:  on insulin
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:55 AM
   - will try for peripheral IVs, but if unable, may still need CVL for
   access
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  head of bed elevation, mouth care
   Communication:  with wife, updated her today
   Code status: Full code, but would be appropriate to discuss goals of
   care with family
   Disposition: ICU

2183-05-01 08:57:00 Physician Attending Progress Note
Chief Complaint:  Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: COPD, CHF, MSSA cellulitis
   24 Hour Events:
   Increased respiratory secretions overnight
   developed hypercarbic respiratory failure with CO2 120s, did not
   tolerate bipap, and required intubation
   With propofol, succinocholine and etomodate became hypotensive and
   required levo then changed to neo
   CXR with no significant new infiltrate
   Abx broadened to zosyn
   Developed wide-complex tachycardia, EP evaluated, more consistent with
   Afib with aberrancy, started back on amiodarone drip, discontinue
   quinidine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-4-30**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-4-30**] 11:56 PM
   Infusions:
   Phenylephrine - 2.5 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-5-1**] 12:00 AM
   Amiodarone - [**2183-5-1**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-1**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 82 (80 - 96) bpm
   BP: 117/47(69) {79/31(-1) - 141/48(74)} mmHg
   RR: 21 (17 - 44) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  3,435 mL
                                                                    919 mL
   PO:
             TF:
                                                                    879 mL
   IVF:
                                                                  2,006 mL
                                                                    919 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    145 mL
   Urine:
                                                                  1,145 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                    774 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/55/80.[**Numeric Identifier 176**]/35/12
   Ve: 10.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   196 K/uL
   192 mg/dL
   1.6 mg/dL
   35 mEq/L
   4.4 mEq/L
   37 mg/dL
   102 mEq/L
   143 mEq/L
   30.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2183-4-26**]  05:40 PM
                             [**2183-4-27**]  04:41 AM
                             [**2183-4-28**]  04:10 AM
                             [**2183-4-29**]  03:19 AM
                             [**2183-4-29**]  01:25 PM
                             [**2183-4-30**]  03:02 AM
                             [**2183-4-30**]  05:33 PM
                             [**2183-4-30**]  10:45 PM
                             [**2183-5-1**]  03:54 AM
                             [**2183-5-1**]  04:50 AM
   WBC
   18.7
   16.5
   14.3
   11.6
   11.0
   14.2
   Hct
   33.6
   34.9
   34.1
   32.3
   31.5
   30.0
   Plt
   130
   117
   120
   146
   143
   196
   Cr
   1.8
   1.6
   1.5
   1.3
   1.3
   1.6
   TCO2
   40
   48
   40
   Glucose
   183
   116
   164
   155
   159
   192
   Other labs: PT / PTT / INR:11.1/31.4/0.9, CK / CKMB /
   Troponin-T:136/4/0.07, ALT / AST:39/34, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:94.8 %, Lymph:2.3 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:320
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   1. Sepsis/Hypotension: progressive hypercarbia followed by gradual
   decrease in blood pressures with acute decompensation after intubation,
   his hemodynamics are likely secondary to increased SIRS response to
   aspiration pneumonia, compounded by inability to [**Location 14469**] cardiac
   output due to cardiomyopathy.  Overall, likely [**2-25**] sedation, intubation
   event, although brief period afib with rapid reponse, acidosis
    - will continue neosynephrine to maintain blood pressure
    - will continue to follow lactate and CVO2
    - repeat TTE
    - cycle cardiac biomarkes
    - broadspectrum antibiotics: vanc/zosyn
    - Patient likely euvolemic at this point so  will use pressors to
   maintain C.O.
   2. tachycardia: appears to be afib with aberrancy
    - cont IV amiodarone at 1mg/kg
    - he will likely need to stay on this medication during
   hospitalization
    - discontinue quinidine
    - monitor QTc
   3. Hypercarbic respiratory failure: likely [**2-25**] increased secretions on
   top of poor pulmonary reserve with inability to overcompensate
    - his baseline CO2 likely 60-70s
    - cont steroid taper
    - cont standing nebulizers
   Will need trach / PEG if family concurs
   4. AoCRF: likely pre-renal in setting of HoTN
    - will check urine lytes
    - maintain uop > 0.5 mg/kg/hr with either diuresis or volume pending
   assessment of volume status
   5. Tremulous: likely hypercarbia and discomfort, no focal abnormalities
   6. Bacteremia: cont vancomycin x 6 weeks total
   7. CAD: Asa, plavix, f/u tte to assess new wall motion abnormalities
   8. Access: PICC, will attempt PIVs
   ICU Care
   Nutrition:
   Comments: holding tube feeds until hemodynamically stable
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:55 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   status
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2183-05-02 05:15:00 Physician Resident Progress Note
Chief Complaint: 68 yo male with a history of COPD, CAD, s/p CABG and
   s/p RUL lobectomy for prior lung CA who was admitted for hypotension &
   respiratory failure in setting of MRSA bacteremia.
   24 Hour Events:
   - [**5-1**]  bronch showed collapse LUL, and questionable for recurrent lung
   CA  ( IP service agrees)
   - holding Plavix until next Tuesday for IP Bronch/Bx of  LUL  area
   - RIJ placed [**5-1**]
   - TTE with EF 25% / same as prior
   - CVO2 Sat stayed 65 range overnight and lactates stable so kept on
   Neosynephrine ( gets tachy with levophed)
   - CVP dropped 5 so got 500cc bolus, UOP good
   - EP recs--> PO amiodarone 400mg [**Hospital1 7**] following finish of IV load today
   [**5-2**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-1**] 09:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-1**] 12:06 PM
   Infusions:
   Phenylephrine - 3 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Amiodarone - [**2183-5-1**] 07:45 AM
   Propofol - [**2183-5-1**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2183-5-2**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-2**] 05:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.8
C (100
   Tcurrent: 35.8
C (96.5
   HR: 84 (80 - 84) bpm
   BP: 130/45(70) {102/39(58) - 142/57(84)} mmHg
   RR: 20 (11 - 33) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 7 (4 - 7)mmHg
   Mixed Venous O2% Sat: 65 - 65
                                Total In:
                                                                  2,943 mL
                                                                    308 mL
   PO:
                                TF:
                                                                    135 mL
                                                                     19 mL
   IVF:
                                                                  2,747 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    140 mL
   Urine:
                                                                  1,150 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,793 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 151
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.51/49/62/35/13
   Ve: 8 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General: sedated, intubated, elderly man, pallid skin
   HEENT:  EOMI,  L pupil>R ( aniscoria), OP clear
   NECK: supple, no LAD, right IJ appears clean, dry and in tact
   LUNGS: bibasilar crackles appreciated,  no wheezing
   CVS: Regular rate and rhythm.  S1/S2 reg. No  murmurs or rubs.
   ABD: normoactive bowel sounds, soft, nontender
   EXT:  Pneumoboots on,   1+ pedal edema, 2+ pedal pulses.
   SKIN: no rashes or lesions, pale skin
   NEURO: CNs [**3-7**] intact, exam limited as patient sedated.
   Labs / Radiology
   157 K/uL
   8.8 g/dL
   106 mg/dL
   1.6 mg/dL
   35 mEq/L
   3.7 mEq/L
   29 mg/dL
   101 mEq/L
   142 mEq/L
   24.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2183-4-30**]  05:33 PM
                             [**2183-4-30**]  10:45 PM
                             [**2183-5-1**]  03:54 AM
                             [**2183-5-1**]  04:50 AM
                             [**2183-5-1**]  09:08 AM
                             [**2183-5-1**]  09:38 AM
                             [**2183-5-1**]  04:54 PM
                             [**2183-5-1**]  05:28 PM
                             [**2183-5-2**]  02:19 AM
                             [**2183-5-2**]  02:42 AM
   WBC
   11.0
   14.2
   11.5
   Hct
   31.5
   30.0
   24.9
   Plt
   143
   196
   157
   Cr
   1.6
   1.6
   1.6
   TropT
   0.06
   TCO2
   48
   40
   43
   43
   40
   Glucose
   192
   137
   106
   Other labs: PT / PTT / INR:12.1/33.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:39/34, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:94.8 %, Lymph:2.3 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:320
   IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
    68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD
   ( s/p CABG) who was admitted with hypotension and respiratory failure
   in setting of MRSA PNA and bacteremia.
   # Hypotension / Septic Shock:   Lactate now improving from 1.5 to .9.
   Etiology based on recent labs and work-up showing likely cause was MRSA
   PNA and bacteremia. WBC trend improving and afebrile overnight.  BPs
   remain low but stable in the high 90s-130s systolic on neosynephrine
   now.
   - continue Zosyn x 10 days total and IV Vanco x 6 weeks
   - Continue neosynephrine  to MAP>65
   - trend lactate and  monitor CvO2 q8hrs
 if acutely worsened switch
   back to levophed from neosynephrine
   - Follow urine output, goal 30 cc/hr
   .- Follow up all pending micro/ culture data
   -CIS
   .
   #HCT Drop :  Drop in HCT from 30 to 24.9 range now. Positive guaiac
   today and questionable abdominal discomfort.
   -stat repeat HCT
   -will trend HCTs q 8 hours
   -check repeat stool guaiacs / abdominal exams
   -hold SC heparin for now
   -given cardiac hx, will give 1 Unit PRBCs  .
   .
   # Atrial ectopy ( a-fib and atrial tachycardia ) :
   Relatively well controlled overnight. [**Month (only) 51**] be from infection and was
   exacerbated in setting of recent Levophed so switched to neosynephrine.
   -cont telemetry
   -f/up EP recs
 s/p Amio load, will switch to PO amiodarone today l
   -follow K, Mg   PM labs  and replete PRN
   # Hypercarbic respiratory failure:  Exacerbated in setting of PNA with
   sepsis. Also has baseline  h/o COPD on oxygen at home.
   - treat PNA as above
   - Continue A/C ventilation, permissive hypercapnia
   - based on recent gas with worse PO2 will increase Fi02 to 35-40% again
   and consider decrease RR from 20
 15 and recheck ABG
   - Check resistances
   - Trial of PSV as tolerated
 likely later this weekend
   - Continue steroid taper and MDIs
   # [**Last Name (un) **] : Cr still elevated at 1.6 range. Likely elevated In setting of
   hypotension and probable element of recent  ATN.
   - Repeat PM lytes
   - Follow urine output (keep UOP>30cc/hr)
   # CAD,s/p CABG: No active issues
   --opting to hold Plavix for upcoming IP bronch/biopsy
   - continue  ASA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   20 Gauge - [**2183-5-1**] 09:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-05-02 12:16:00 Physician Attending Progress Note
Chief Complaint:  Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M COPD on home O2, CAD s/p cabg, admitted with MRSA pneumonia and
   bactermia, course complicated by respiratory failure [**2-25**] secretions,
   agitation, reintubation
   24 Hour Events:
   Bronchoscopy [**5-1**] with likely LUL infiltrating mass
   CVL placed
   SVT and restarted amiodarone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-2**] 08:29 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-2**] 11:30 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2183-5-1**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2183-5-2**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-2**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 80 (80 - 85) bpm
   BP: 102/49(66) {102/45(65) - 142/57(84)} mmHg
   RR: 25 (11 - 33) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 10 (4 - 10)mmHg
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  2,943 mL
                                                                  1,172 mL
   PO:
   TF:
                                                                    135 mL
                                                                     31 mL
   IVF:
                                                                  2,748 mL
                                                                  1,051 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    905 mL
   Urine:
                                                                  1,150 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,793 mL
                                                                    268 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 151
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/52/61/35/11
   Ve: 9.7 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Eyes / Conjunctiva: sedated
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, Distant),
   irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Bronchial: , Rhonchorous:
   diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, RLE cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   157 K/uL
   106 mg/dL
   1.6 mg/dL
   35 mEq/L
   3.7 mEq/L
   29 mg/dL
   101 mEq/L
   142 mEq/L
   24.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2183-4-30**]  10:45 PM
                             [**2183-5-1**]  03:54 AM
                             [**2183-5-1**]  04:50 AM
                             [**2183-5-1**]  09:08 AM
                             [**2183-5-1**]  09:38 AM
                             [**2183-5-1**]  04:54 PM
                             [**2183-5-1**]  05:28 PM
                             [**2183-5-2**]  02:19 AM
                             [**2183-5-2**]  02:42 AM
                             [**2183-5-2**]  07:55 AM
   WBC
   14.2
   11.5
   Hct
   30.0
   24.9
   Plt
   196
   157
   Cr
   1.6
   1.6
   1.6
   TropT
   0.06
   TCO2
   48
   40
   43
   43
   40
   39
   Glucose
   192
   137
   106
   Other labs: PT / PTT / INR:12.1/33.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:39/34, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:94.8 %, Lymph:2.3 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.9 g/dL, LDH:320
   IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   68 yo M COPD on home O2, CAD s/p cabg, admitted with MRSA pneumonia and
   bactermia, course complicated by respiratory failure [**2-25**] secretions,
   aggitation, reintubation
   1. Respiratory failure: MRSA pneumonia, COPD, volume overload
    - day [**3-5**] zosyn
    - 6 weeks vancomycin
    - diuresis
    - trial sbt once diuresed
   2. HoTN: likely [**2-25**] SIRS response and inability to compensate due to
   cardiomyopathy and propfol
    - Maintain MAP > 65 with neo
    - appears volume overloaded and will start diuresis with lasix gtt aim
   - 25-50cc/hr for tbb -500 to 1L
    - monitor CVO2, lactate q 8
   3. Afib with aberrancy:
    - completed amiodarone load and will continue oral amiodarone (400 [**Hospital1 **]
   until discharge)
   4. Hct drop (30-25)
    - repeat CBC
    - T/F for goal > 28
    - cont PPI
    - guaiac stool
   5. COPD:
    cont prednisone 20 mg qday
    f/u resistance while on vent
   6. Lung mass:
    - will need biopsy, but OFF plavix, likely next week tuesday
    - hold plavix, and plan for biopsy on Tuesday, will discuss with
   family
   7. CAD: asa, holding plavix
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-5-2**] 11:22 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   20 Gauge - [**2183-5-1**] 09:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-05-03 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2183-5-2**] 10:33 AM
   - had bronch by IP, agreed that most consistent with malignant mass,
   unable to take biopsy until plavix washout, plan mid next week
   - plavix discontinued
   - started on lasix gtt with UOP 80-100cc/hr -> **** out/24 hours
   - patient trace guiac neg, Hct decreased, so transfused 1 unit, started
   on IV PPI, heparin SC discontinued
   - had afib with RVR around 10pm up to 140s with hypotension,
   intermittent but started on amio gtt at 0.5
   - lactate 0.5, 0.8, CvO2 59, 63
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-2**] 08:29 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-2**] 11:30 AM
   Piperacillin - [**2183-5-3**] 04:15 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Furosemide (Lasix) - 4 mg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-5-2**] 08:33 AM
   Pantoprazole (Protonix) - [**2183-5-3**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-3**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 81 (80 - 84) bpm
   BP: 117/67(85) {91/43(60) - 158/67(94)} mmHg
   RR: 17 (7 - 25) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 4 (-2 - 11)mmHg
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  2,939 mL
                                                                    858 mL
   PO:
   TF:
                                                                    591 mL
                                                                    228 mL
   IVF:
                                                                  1,733 mL
                                                                    630 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,085 mL
                                                                  1,500 mL
   Urine:
                                                                  3,085 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -146 mL
                                                                   -642 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 446
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 23.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/56/78.[**Numeric Identifier 181**]/36/13
   NIF: -28 cmH2O
   Ve: 8.7 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   8.8 g/dL
   172 mg/dL
   1.7 mg/dL
   36 mEq/L
   3.7 mEq/L
   27 mg/dL
   101 mEq/L
   143 mEq/L
   26.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2183-5-1**]  04:54 PM
                             [**2183-5-1**]  05:28 PM
                             [**2183-5-2**]  02:19 AM
                             [**2183-5-2**]  02:42 AM
                             [**2183-5-2**]  07:55 AM
                             [**2183-5-2**]  12:55 PM
                             [**2183-5-2**]  01:24 PM
                             [**2183-5-2**]  05:14 PM
                             [**2183-5-2**]  05:25 PM
                             [**2183-5-2**]  10:21 PM
   WBC
   11.5
   9.1
   Hct
   24.9
   26.7
   25.7
   26.1
   Plt
   157
   143
   Cr
   1.6
   1.6
   1.6
   1.7
   TCO2
   43
   40
   39
   38
   41
   Glucose
   137
   106
   208
   172
   Other labs: PT / PTT / INR:12.1/33.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:39/34, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:94.8 %, Lymph:2.3 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:320
   IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FLUTTER (AFLUTTER)
 CELLULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, OTHER
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   20 Gauge - [**2183-5-1**] 09:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-05-03 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2183-5-2**] 10:33 AM
   - had bronch by IP, agreed that most consistent with malignant mass,
   unable to take biopsy until plavix washout, plan mid next week
   - plavix discontinued
   - started on lasix gtt with UOP 80-100cc/hr
   - patient trace guiac neg, Hct decreased, so transfused 1 unit, started
   on IV PPI, heparin SC discontinued
   - had afib with RVR around 10pm up to 140s with hypotension,
   intermittent but started on amio gtt at 0.5
   - lactate 0.5, 0.8, CvO2 59, 63
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-2**] 08:29 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-2**] 11:30 AM
   Piperacillin - [**2183-5-3**] 04:15 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Furosemide (Lasix) - 4 mg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-5-2**] 08:33 AM
   Pantoprazole (Protonix) - [**2183-5-3**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-3**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 81 (80 - 84) bpm
   BP: 117/67(85) {91/43(60) - 158/67(94)} mmHg
   RR: 17 (7 - 25) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 4 (-2 - 11)mmHg
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  2,939 mL
                                                                    861 mL
   PO:
   TF:
                                                                    591 mL
                                                                    228 mL
   IVF:
                                                                  1,733 mL
                                                                    633 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,085 mL
                                                                  1,500 mL
   Urine:
                                                                  3,085 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -146 mL
                                                                   -639 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 446
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 23.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/56/78.[**Numeric Identifier 181**]/36/13
   NIF: -28 cmH2O
   Ve: 8.7 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   8.8 g/dL
   172 mg/dL
   1.7 mg/dL
   36 mEq/L
   3.7 mEq/L
   27 mg/dL
   101 mEq/L
   143 mEq/L
   26.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2183-5-1**]  04:54 PM
                             [**2183-5-1**]  05:28 PM
                             [**2183-5-2**]  02:19 AM
                             [**2183-5-2**]  02:42 AM
                             [**2183-5-2**]  07:55 AM
                             [**2183-5-2**]  12:55 PM
                             [**2183-5-2**]  01:24 PM
                             [**2183-5-2**]  05:14 PM
                             [**2183-5-2**]  05:25 PM
                             [**2183-5-2**]  10:21 PM
   WBC
   11.5
   9.1
   Hct
   24.9
   26.7
   25.7
   26.1
   Plt
   157
   143
   Cr
   1.6
   1.6
   1.6
   1.7
   TCO2
   43
   40
   39
   38
   41
   Glucose
   137
   106
   208
   172
   Other labs: PT / PTT / INR:12.1/33.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:39/34, Alk Phos / T Bili:79/0.6,
   Differential-Neuts:94.8 %, Lymph:2.3 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, LDH:320
   IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FLUTTER (AFLUTTER)
 CELLULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIOMYOPATHY, OTHER
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia.
   # Hypotension / Septic Shock:   Lactate now improving from 1.5 to .9.
   Etiology based on recent labs and work-up showing likely cause was MRSA
   PNA and bacteremia. WBC trend improving and afebrile overnight.  BPs
   remain low but stable in the high 90s-130s systolic on neosynephrine
   now.
   - continue Zosyn x 10 days total and IV Vanco x 6 weeks
   - Continue neosynephrine  to MAP>65
   - trend lactate and  monitor CvO2 q8hrs
 if acutely worsened switch
   back to levophed from neosynephrine
   - Follow urine output, goal 30 cc/hr
   .- Follow up all pending micro/ culture data
   -CIS
   .
   #HCT Drop :  Drop in HCT from 30 to 24.9 range now. Positive guaiac
   today and questionable abdominal discomfort.
   -stat repeat HCT
   -will trend HCTs q 8 hours
   -check repeat stool guaiacs / abdominal exams
   -hold SC heparin for now
   -given cardiac hx, will give 1 Unit PRBCs  .
   .
   # Atrial ectopy ( a-fib and atrial tachycardia ) :
   Relatively well controlled overnight. [**Month (only) 51**] be from infection and was
   exacerbated in setting of recent Levophed so switched to neosynephrine.
   -cont telemetry
   -f/up EP recs
 s/p Amio load, will switch to PO amiodarone today l
   -follow K, Mg   PM labs  and replete PRN
   # Hypercarbic respiratory failure:  Exacerbated in setting of PNA with
   sepsis. Also has baseline  h/o COPD on oxygen at home.
   - treat PNA as above
   - Continue A/C ventilation, permissive hypercapnia
   - based on recent gas with worse PO2 will increase Fi02 to 35-40% again
   and consider decrease RR from 20
 15 and recheck ABG
   - Check resistances
   - Trial of PSV as tolerated
 likely later this weekend
   - Continue steroid taper and MDIs
   # [**Last Name (un) **] : Cr still elevated at 1.6 range. Likely elevated In setting of
   hypotension and probable element of recent  ATN.
   - Repeat PM lytes
   - Follow urine output (keep UOP>30cc/hr)
   # CAD,s/p CABG: No active issues
   --opting to hold Plavix for upcoming IP bronch/biopsy
   - continue  ASA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   20 Gauge - [**2183-5-1**] 09:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-05-03 09:54:00 Physician Attending Progress Note
Chief Complaint: Hypercapnic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx of CHF, CAD, COPD, NSCLC. Now with new LUL process, ? recurrent
   malignancy
   24 Hour Events:
 BRONCHOSCOPY - At [**2183-5-2**] 10:33 AM
   Atrial fibrillation with rapid ventricular response.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-2**] 11:30 AM
   Piperacillin - [**2183-5-3**] 04:15 AM
   Vancomycin - [**2183-5-3**] 08:00 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Furosemide (Lasix) - 2 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-5-3**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Wheeze
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: sedated
   Flowsheet Data as of  [**2183-5-3**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 80 (80 - 86) bpm
   BP: 74/37(50) {74/37(50) - 158/67(94)} mmHg
   RR: 29 (7 - 29) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 10 (-2 - 11)mmHg
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  2,906 mL
                                                                  1,427 mL
   PO:
   TF:
                                                                    593 mL
                                                                    424 mL
   IVF:
                                                                  1,699 mL
                                                                  1,003 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,085 mL
                                                                  2,460 mL
   Urine:
                                                                  3,085 mL
                                                                  2,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -179 mL
                                                                 -1,033 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 446
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 23.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.51/54/62/38/16
   NIF: -28 cmH2O
   Ve: 8.7 L/min
   PaO2 / FiO2: 177
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: Hyperresonant: ), (Breath Sounds:
   No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, umbilical hernia
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   145 K/uL
   165 mg/dL
   1.6 mg/dL
   38 mEq/L
   3.5 mEq/L
   26 mg/dL
   99 mEq/L
   145 mEq/L
   28.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2183-5-2**]  02:19 AM
                             [**2183-5-2**]  02:42 AM
                             [**2183-5-2**]  07:55 AM
                             [**2183-5-2**]  12:55 PM
                             [**2183-5-2**]  01:24 PM
                             [**2183-5-2**]  05:14 PM
                             [**2183-5-2**]  05:25 PM
                             [**2183-5-2**]  10:21 PM
                             [**2183-5-3**]  06:06 AM
                             [**2183-5-3**]  06:42 AM
   WBC
   11.5
   9.1
   10.0
   Hct
   24.9
   26.7
   25.7
   26.1
   28.5
   Plt
   157
   143
   145
   Cr
   1.6
   1.6
   1.7
   1.6
   TCO2
   40
   39
   38
   41
   45
   Glucose
   106
   208
   172
   165
   Other labs: PT / PTT / INR:11.5/25.3/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:35/28, Alk Phos / T Bili:77/1.1,
   Differential-Neuts:94.8 %, Lymph:2.3 %, Mono:2.4 %, Eos:0.3 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:286
   IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Please see resident note for details.
   RESPIRATORY FAILURE
  likely lung injury (P:F < 200, compliance ~20;
   SBT due to low tidal volumes).  Continue lung protective strategy (i.e.
   Low tidal volume ventilation), continue antibiotics, net diuresis as
   tolerated.
   HYPOTENSION
 Continues to require vasopressor.  Plan transitioning
   from Levophed to Neosinephrine.  Likely vasodilatory given exam, high
   CVO2.  Repeat cv02 for now, follow up cultures, cont. neoosinephrine,
   maintain MAP> 60 mmHg.
   A-FIB
 Good response with rate control on amnioderone.
   FLIUDS
 desire net negative if tolerated, although low BP/vasopressor
   dependence may be limiting.
   Furher plans as per resident note
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-5-3**] 04:58 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   20 Gauge - [**2183-5-1**] 09:51 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-05-04 07:40:00 Physician Resident Progress Note
Chief Complaint: 68yo M with CAD, CABG, ischemic CMY, VT ( s/p ICD / PM
   placement), COPD ( on home O2), prior lung CA ( s/p RUL lobectomy) who
   was admitted with MRSA PNA and sepsis with complication of respiratory
   failure requiring vent
   24 Hour Events:
   -still on IV PPI after recent positive guaiac and HCT drop / HCT now
   stabilized ~ 28 ( up from 24 s/p 1 Unit PRBC)
   -heparin SC still discontinued
   -afib with RVR overnight--> rebolused with amiodarone; avoided digoxin
   given renal insufficiency -> rebolused x1 with 150mg amio
   - decreased pulm compliance, p/f c/w ards - on ardsnet ventilation-->
   but has RSBI near high 60s this morning which is reassuring
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-2**] 11:30 AM
   Vancomycin - [**2183-5-3**] 08:00 AM
   Piperacillin - [**2183-5-4**] 04:05 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Amiodarone - [**2183-5-3**] 05:15 PM
   Pantoprazole (Protonix) - [**2183-5-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-4**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 80 (80 - 160) bpm
   BP: 108/50(70) {67/36(46) - 158/73(96)} mmHg
   RR: 16 (0 - 29) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 1 (0 - 12)mmHg
   CO/CI (Fick): (#Type mismatch: '[string: "#Division by zero#"]'# L/min)
   / (#Type mismatch: '[string: "#Type mismatch: '[st"]'# L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  2,901 mL
                                                                    713 mL
   PO:
   TF:
                                                                  1,090 mL
                                                                    336 mL
   IVF:
                                                                  1,811 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  5,020 mL
                                                                    460 mL
   Urine:
                                                                  5,020 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,119 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 370 (370 - 400) mL
   Vt (Spontaneous): 317 (317 - 317) mL
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 93
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 31.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.50/49/77.[**Numeric Identifier 143**]/38/12
   Ve: 8.1 L/min
   PaO2 / FiO2: 223
   Physical Examination:
   General: sedated, intubated, no apparent distress
   HEENT:  L pupil>R ( aniscoria), OP clear, EOMI
   NECK: supple, no LAD, right IJ appears clean, dry and in tact
   LUNGS: minimal bibasilar crackles
   CVS: Regular rate and rhythm.  S1/S2 reg. No  murmurs or rubs.
   ABD: soft, normoactive bowel sounds,  nontender and no [**Last Name (un) 1993**] guarding
   or rebound
   EXT:  + pneumoboots,  1+ pedal edema, 2+ pedal pulses bilaterally
   SKIN: no rashes or lesions
   NEURO: CNs [**3-7**] intact, exam otherwise limited due to sedation
   Labs / Radiology
   159 K/uL
   9.6 g/dL
   154 mg/dL
   1.6 mg/dL
   38 mEq/L
   3.0 mEq/L
   22 mg/dL
   100 mEq/L
   144 mEq/L
   28.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2183-5-2**]  01:24 PM
                             [**2183-5-2**]  05:14 PM
                             [**2183-5-2**]  05:25 PM
                             [**2183-5-2**]  10:21 PM
                             [**2183-5-3**]  06:06 AM
                             [**2183-5-3**]  06:42 AM
                             [**2183-5-3**]  04:08 PM
                             [**2183-5-3**]  04:42 PM
                             [**2183-5-4**]  05:58 AM
                             [**2183-5-4**]  06:14 AM
   WBC
   9.1
   10.0
   9.7
   Hct
   25.7
   26.1
   28.5
   28.7
   28.9
   Plt
   143
   145
   159
   Cr
   1.6
   1.7
   1.6
   1.8
   1.6
   TCO2
   38
   41
   45
   43
   40
   Glucose
   [**Telephone/Fax (3) 14532**]15
   154
   Other labs: PT / PTT / INR:11.5/25.3/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:35/28, Alk Phos / T Bili:77/1.1,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:286
   IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan:
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia new found to have new L lobe mass
   likely malignancy.
   # Hypercarbic respiratory failure:  Exacerbated in setting of PNA with
   sepsis. Also has baseline  h/o COPD on oxygen at home. Also now found
   to have left mass. Has evidence of decreased compliance on vent [**2-25**]
   lung injury
   - Continue A/C ventilation, permissive hypercapnia, so want to keep
   tidal volumes low. Goal to keep Tv around 400, tolerating this without
   increased sedation
   - Still needs the vent [**2-25**] decreased compliance
   - Also, will need intubation for repeat bronch in OR after plavix
   washout for repeat bronch with biopsy
   - Continue diuresis to goal 1L negative today
   - Continue steroid taper and MDIs
 day#12 of steroids today, will
   continue for 2 more days
   # Hypotension / Septic Shock:   [**2-25**] MRSA PNA. Being treated for HAP. BP
   has been stable on neo (0.1mcg/kg/min). Likely vasodilatory shock
   - continue Zosyn x 10 days total (day #3) and IV Vanco x 6 weeks
   - Continue neosynephrine  to MAP>65, wean as tolerated
   .- Follow up all pending micro/ culture data
   .
   # Atrial ectopy ( a-fib and atrial tachycardia ) : Plan to continue on
   amiodarone, and switch to quinidine as outpatient
   Restarted on IV amio drip yesterday. [**Month (only) 51**] be from infection and was
   exacerbated in setting of recent Levophed so switched to neosynephrine.
   -cont telemetry
   -f/up EP recs
 s/p Amio load, will switch back to PO amiodarone today
   -follow K, Mg   PM labs  and replete aggressively
   .
   #HCT Drop :  Drop in HCT from 30 to 24.9 range now. Positive guaiac
   today and questionable abdominal discomfort. Received 1 unit pRBCs
   yesterday. [**Month (only) 51**] be stress gastritis
   -will trend HCTs [**Hospital1 7**], keep >25
   -check repeat stool guaiacs / abdominal exams
   -hold SC heparin for now .
   # [**Last Name (un) **] : Cr still elevated at 1.6 range. Likely elevated In setting of
   hypotension and probable element of recent  ATN.
   - Repeat PM lytes
   - Follow urine output (keep UOP>50cc/hr)
   # CAD,s/p CABG: No active issues
   --opting to hold Plavix for upcoming IP bronch/biopsy
   - continue  ASA 81mg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   20 Gauge - [**2183-5-1**] 09:51 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-05-04 11:13:00 Physician Attending Progress Note
Chief Complaint: Sepsis, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old man with complicated PMH as outlined in previous notes.
   Some ongoing afib with RVR.
   24 Hour Events:
 MULTI LUMEN - START [**2183-5-3**] 01:35 PM
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-2**] 11:30 AM
   Piperacillin - [**2183-5-4**] 04:05 AM
   Vancomycin - [**2183-5-4**] 08:04 AM
   Infusions:
   Phenylephrine - 0.7 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Amiodarone - [**2183-5-3**] 05:15 PM
   Pantoprazole (Protonix) - [**2183-5-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-5-4**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 80 (80 - 160) bpm
   BP: 90/40(56) {67/36(46) - 158/73(96)} mmHg
   RR: 18 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 91 (0 - 91)mmHg
   CO/CI (Fick): (#Type mismatch: '[string: "#Division by zero#"]'# L/min)
   / (#Type mismatch: '[string: "#Type mismatch: '[st"]'# L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  2,901 mL
                                                                  1,297 mL
   PO:
   TF:
                                                                  1,090 mL
                                                                    494 mL
   IVF:
                                                                  1,811 mL
                                                                    803 mL
   Blood products:
   Total out:
                                                                  5,020 mL
                                                                    780 mL
   Urine:
                                                                  5,020 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,119 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 370 (370 - 370) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 93
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/49/77.[**Numeric Identifier 143**]/38/12
   Ve: 7.4 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   159 K/uL
   154 mg/dL
   1.6 mg/dL
   38 mEq/L
   3.0 mEq/L
   22 mg/dL
   100 mEq/L
   144 mEq/L
   28.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2183-5-2**]  01:24 PM
                             [**2183-5-2**]  05:14 PM
                             [**2183-5-2**]  05:25 PM
                             [**2183-5-2**]  10:21 PM
                             [**2183-5-3**]  06:06 AM
                             [**2183-5-3**]  06:42 AM
                             [**2183-5-3**]  04:08 PM
                             [**2183-5-3**]  04:42 PM
                             [**2183-5-4**]  05:58 AM
                             [**2183-5-4**]  06:14 AM
   WBC
   9.1
   10.0
   9.7
   Hct
   25.7
   26.1
   28.5
   28.7
   28.9
   Plt
   143
   145
   159
   Cr
   1.6
   1.7
   1.6
   1.8
   1.6
   TCO2
   38
   41
   45
   43
   40
   Glucose
   [**Telephone/Fax (3) 14532**]15
   154
   Other labs: PT / PTT / INR:11.5/25.3/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:35/28, Alk Phos / T Bili:77/1.1,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:286
   IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   68 year old man with hypercarbic and hypoxemic respiratory failure.
   RESPIRATORY FAILURE
  likely lung injury (P:F now 218, compliance ~30;
   - Continue lung protective strategy (i.e. Low tidal volume
   ventilation),
   - Continue antibiotics, net diuresis as tolerated.
   - Continued slow improvement
   - Gas exchange improved, on 0.35 fi02
   - Diuresed 2L yesterday, RSBI much improved but marginal Vt on 15/5 PS
   - Continue PS, gentle diuresis.
   - Not yet ready for extubation.
   HYPOTENSION
 Continues to require low dose vasopressor
   A-FIB
 Good response with rate control on amnioderone.
   FLIUDS
 gentle diuresis
   Remainder of plan per resident note.
   I agree with the remainder of the plan as outlined in the resident
   note.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-5-4**] 07:27 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   20 Gauge - [**2183-5-1**] 09:51 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2183-05-05 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   held Lasix briefly in a.m. then he was +500 for day so restarted lasix
   drip back; I/O goal -1L
   -yesterday: although RSBI 69, unable to tolerate PS, high plateaus,
   compliance better from 20 to 30. did 4 hrs Press Support in day and
   then 1hr last night
   - today: this AM, RSBI 79 but unable to tolerate PS [**2-25**] tachypnea
   -switched to PO PPI now and restarted SC heparin given recent Hct drop
   now stable (s/p 1 Unit PRBCs; 24 up to 28 after trace positive stool
   guaiac on Fri--> all repeat guaiacs negative)
   -continues on neosyn pressor for now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-5-4**] 04:05 AM
   Vancomycin - [**2183-5-4**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-5**] 04:05 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-5-5**] 12:44 AM
   Heparin Sodium (Prophylaxis) - [**2183-5-5**] 12:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-5**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 80 (80 - 81) bpm
   BP: 124/53(75) {86/39(54) - 124/53(75)} mmHg
   RR: 17 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 7 (7 - 13)mmHg
   Total In:
                                                                  2,565 mL
                                                                    701 mL
   PO:
   TF:
                                                                  1,084 mL
                                                                    305 mL
   IVF:
                                                                  1,481 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                  1,030 mL
   Urine:
                                                                  2,740 mL
                                                                  1,030 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                   -525 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 448 (408 - 448) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 78
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/52/74/38/15
   Ve: 8.5 L/min
   PaO2 / FiO2: 211
   Physical Examination
   Gen: Intubated, sedated
   HEENT: pupils reactive 4->3 bilaterally symmetric
   Lungs: Good air movement anteriorly, +rhonchorous
   CV: RR, no new murmurs
   Abd: obese, soft
   LE: Pneumoboots in place, slightly warm to touch
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   178 K/uL
   9.4 g/dL
   162 mg/dL
   1.7 mg/dL
   38 mEq/L
   3.1 mEq/L
   22 mg/dL
   99 mEq/L
   143 mEq/L
   27.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2183-5-3**]  06:06 AM
                             [**2183-5-3**]  06:42 AM
                             [**2183-5-3**]  04:08 PM
                             [**2183-5-3**]  04:42 PM
                             [**2183-5-4**]  05:58 AM
                             [**2183-5-4**]  06:14 AM
                             [**2183-5-4**]  12:38 PM
                             [**2183-5-4**]  05:52 PM
                             [**2183-5-5**]  04:18 AM
                             [**2183-5-5**]  04:34 AM
   WBC
   10.0
   9.7
   10.4
   10.6
   Hct
   28.5
   28.7
   28.9
   29.1
   27.6
   Plt
   145
   159
   175
   178
   Cr
   1.6
   1.8
   1.6
   1.7
   TCO2
   45
   43
   40
   39
   43
   Glucose
   165
   215
   154
   162
   Other labs: PT / PTT / INR:11.5/32.1/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:36/32, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   BAL [**5-1**]: final cultures negative
   BCx [**4-30**], [**5-1**] NGTD
   UCx [**4-30**] final negative
   Lactate 0.8
   Tele: occasional tachycardia to 110-120s, self limited
   Assessment and Plan
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia new found to have new L lobe mass
   likely malignancy awaiting plavix washout for biopsy of mass in OR.
   # Hypercarbic respiratory failure:  Multifactorial: baseline COPD, less
   lung volume on R and new L lung mass, volume overload with decreased
   compliance. Also has difficulty with secretions.
   - Hold on extubation due to inability to tolerate P/S. [**Month (only) 51**] have repeat
   bronch with biopsy as early as tomorrow (Tu) by IP
   - Continue diuresis by lasix gtt to goal 1L negative today
   - Continue steroid taper and MDIs
 day#14 of predisone 20mg today,
   plan to switch to 10mg PO prednisone tomorrow [**5-6**]
   # L sided lung mass, concern for cancer recurrence
   - Plan for repeat bronch/biopsy tomorrow/Wed by IP
   - Hold TF after midnight in case procedure tomorrow
   # Hypotension: Likely component of hypotension from propofol. Also s/p
   septic physiology.   Being treated for HAP. Still pressor dependent.
   - continue Zosyn x 10 days total (day #5) and IV Vanco x 6 weeks
   - Continue neosynephrine  to MAP>65, wean as tolerated
   .- Follow up all pending micro/ culture data, none positive so far
   .
   # Atach/afib : Plan to continue on Amiodarone. [**Month (only) 51**] switch to quinidine
   as outpt.
   -cont telemetry
   -follow K, Mg   PM labs  and replete aggressively
   .
   #HCT Drop :  [**Month (only) 51**] be stress gastritis. Hct has been stable, has not
   required transfusions since [**5-2**]
   -will trend HCTs [**Hospital1 7**], keep >25
   - active T/S
   # [**Last Name (un) **] : Cr still elevated at 1.7 range. Likely elevated In setting of
   hypotension and probable element of recent  ATN.
   - Repeat PM lytes
   - Follow urine output (keep UOP>50cc/hr) which has been good
   # CAD,s/p CABG: No active issues
   --opting to hold Plavix for upcoming IP bronch/biopsy (tomorrow will be
   5 days off plavix
   - continue  ASA 81mg
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-5-5**] 01:09 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: family. Will need family meeting at some
   point to discuss goals of care
   Code status: Full code
   Disposition: ICU

2183-05-05 09:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M COPD, CAD, lung CA, here with MRSA pneumonia and bacteremia [**Last Name (un) **]
   found to have likely recurrent lung cancer
   24 Hour Events:
   Patient was trialed on PSV x 4 hours but became tachypnea.  Compliance
   improving slightly to 30.  Diuresed 1L.  Over the weekend the patient's
   hct had been decreasing but stabilized and no s/sx active bleeding.
   Patient remains on neosynephrine low dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-5-4**] 04:05 AM
   Vancomycin - [**2183-5-4**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-5**] 04:05 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-5-5**] 12:44 AM
   Heparin Sodium (Prophylaxis) - [**2183-5-5**] 07:59 AM
   Other medications:
   crestor
   synthroid
   miralax
   riss
   prednisone 20
   vanc
   zosyn
   chlorhexadine
   atrovent q 4
   amiodarone 400 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-5**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 81 (80 - 81) bpm
   BP: 119/52(73) {86/39(54) - 124/53(75)} mmHg
   RR: 18 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 3 (3 - 13)mmHg
   Total In:
                                                                  2,565 mL
                                                                  1,087 mL
   PO:
   TF:
                                                                  1,084 mL
                                                                    428 mL
   IVF:
                                                                  1,481 mL
                                                                    549 mL
   Blood products:
   Total out:
                                                                  3,090 mL
                                                                  1,350 mL
   Urine:
                                                                  2,740 mL
                                                                  1,350 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                   -525 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 448 (408 - 448) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 78
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 24.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/52/74/38/15
   Ve: 7.2 L/min
   PaO2 / FiO2: 211
   Physical Examination
   General Appearance: intubated/sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: L-sided but
   improving)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   9.4 g/dL
   178 K/uL
   162 mg/dL
   1.7 mg/dL
   38 mEq/L
   3.1 mEq/L
   22 mg/dL
   99 mEq/L
   143 mEq/L
   27.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2183-5-3**]  06:06 AM
                             [**2183-5-3**]  06:42 AM
                             [**2183-5-3**]  04:08 PM
                             [**2183-5-3**]  04:42 PM
                             [**2183-5-4**]  05:58 AM
                             [**2183-5-4**]  06:14 AM
                             [**2183-5-4**]  12:38 PM
                             [**2183-5-4**]  05:52 PM
                             [**2183-5-5**]  04:18 AM
                             [**2183-5-5**]  04:34 AM
   WBC
   10.0
   9.7
   10.4
   10.6
   Hct
   28.5
   28.7
   28.9
   29.1
   27.6
   Plt
   145
   159
   175
   178
   Cr
   1.6
   1.8
   1.6
   1.7
   TCO2
   45
   43
   40
   39
   43
   Glucose
   165
   215
   154
   162
   Other labs: PT / PTT / INR:11.5/32.1/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:36/32, Alk Phos / T Bili:77/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   68 yo M COPD, CAD, lung CA, here with MRSA pneumonia and bacteremia,
   likely recurrent lung CA
   1. Respiratory failure: recently required reintubation likely 2.2
   inability to control secretions on top of poor reserve related to
   underlying pneumonia, RUL resection and LUL involvement of obstructing
   lesion.  OVerall, remains intubated but decreasing ventilator
   requirements, awaiting IP-guided biopsy this week.    Will need to
   establish goals of care prior to extubation.
    - will continue to aim TBB negative (-500 to 1L) as tolerated,
   continue lasix gtt
    - Cont vancomycin for MRSA pneumonia (x 6wees) and zosyn (day [**6-2**])
   for presumed VAP
    - will taper steroids: d/c prednisone [**5-6**]
   2. Hypotension: remains pressor-dependent, likely to meet sedation and
   diuresis needs
    - cont neo to achieve MAP > 65
   3. Tachycardia:
    - cont amiodarone (400 [**Hospital1 **])
   4. Anemia: hct had been trending down but now stable, stool guaiac
   negative, may be [**2-25**] frequent lab draws and poor production
    - cont PPI [**Hospital1 7**]
   5. AoCRF: appears to be around baseline
   6. CAD s/p CABG: cont to hold plavix while awaiting biopsy, cont asa,
   bb
   7. Goals of care: ongoing discussions with family regarding possible
   tracheostomy and peg tube placement vs DNR/DNI
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-5-5**] 01:09 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2183-05-06 07:07:00 Physician Resident Progress Note
Chief Complaint: 68yo M with CAD (s/p CABG), COPD on home O2, h/o lung
   cancer ( prior RUL lobectomy '[**69**]) admitted with MRSA PNA and sepsis
   needing intubation & pressors and now awaiting IP bronch/biopsy for
   concern for recurrent lung CA
   [**97**] Hour Events:
   - had occasional self limited episodes of tachycardia
   - Put out -1.5L overnight on lasix gtt
   - TF stopped at midnight for possible repeat bronch/biopsy today by IP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-5**] 09:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-5**] 12:00 PM
   Piperacillin - [**2183-5-6**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-5-5**] 07:59 AM
   Pantoprazole (Protonix) - [**2183-5-5**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-6**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 80 (80 - 97) bpm
   BP: 122/49(72) {87/39(56) - 149/58(88)} mmHg
   RR: 20 (9 - 25) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 3 (1 - 8)mmHg
   Total In:
                                                                  2,727 mL
                                                                    394 mL
   PO:
   TF:
                                                                  1,051 mL
   IVF:
                                                                  1,505 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                    470 mL
   Urine:
                                                                  3,710 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -983 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 370 (370 - 370) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 23.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/55/77/38/14
   Ve: 7.3 L/min
   PaO2 / FiO2: 220
   Physical Examination:
   Gen: Intubated, sedated, NAD
   HEENT:  pupils reactive 4->3 bilaterally symmetric, EOMI
   Lungs: Good air movement anteriorly, lateral rhonchi over left side
   appreciated , no wheeze
   CV: RRR, no new murmurs / rubs
   Abd: obese, soft, normoactive bowel sounds throughout
   LE: 2+ pedal pulses, +pneumoboots in place, warm to touch
   Labs / Radiology
   209 K/uL
   10.1 g/dL
   138 mg/dL
   1.8 mg/dL
   38 mEq/L
   3.3 mEq/L
   26 mg/dL
   97 mEq/L
   144 mEq/L
   30.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2183-5-3**]  04:42 PM
                             [**2183-5-4**]  05:58 AM
                             [**2183-5-4**]  06:14 AM
                             [**2183-5-4**]  12:38 PM
                             [**2183-5-4**]  05:52 PM
                             [**2183-5-5**]  04:18 AM
                             [**2183-5-5**]  04:34 AM
                             [**2183-5-5**]  01:55 PM
                             [**2183-5-6**]  04:18 AM
                             [**2183-5-6**]  04:36 AM
   WBC
   9.7
   10.4
   10.6
   11.8
   Hct
   28.7
   28.9
   29.1
   27.6
   28.0
   30.1
   Plt
   159
   175
   178
   209
   Cr
   1.8
   1.6
   1.7
   1.7
   1.8
   TCO2
   40
   39
   43
   42
   Glucose
   [**Telephone/Fax (3) 14564**]36
   138
   Other labs: PT / PTT / INR:11.4/27.5/0.9, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:39/36, Alk Phos / T Bili:87/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan:
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia found to have new L lobe mass on
   recent bronchoscopy concerning for recurrent cancer & now awaiting IP
   repeat bronch/biopsy this morning
   .
   # Hypercarbic respiratory failure:  Very poor reserve due to baseline
   COPD. He also had prior RUL lobectomy in
96 for lung cancer. On serial
   imaging he has less lung volume on R and now a newer L lung mass and
   respiratory failure with need for intubation despite multiple broad
   antibiotics.  He also has ongoing volume overload issue with decreased
   compliance overall making his ventilation in ICU challenging. Excessive
   secretions continue. Plan for IP bronch/biopsy today.
   - IP procedure with bronch/biopsy today
   - Holding on extubation due to inability to tolerate P/S
   - Continue diuresis by lasix gtt to goal -1L negative today
   - Continue steroid taper and MDIs
 day#15 today, plan to switch to
   10mg today ( down from 20mg)
   # L sided lung mass:  major concern for cancer recurrence
   - follow-up results of repeat bronch/biopsy today by IP
   - Holding TF until after procedure done
   - per IP
will be safe to place back on Plavix  about 24hrs after
   biopsy ( [**5-7**])
   # Hypotension: Still having transient episodes of low BPs to 80/50s.
   Likely from propofol effects / amiodarone therapy and his overall
   septic physiology.   Being treated for HAP. Responds well to pressor
   medications.
   - continue Zosyn x 10 days total (day #6) and IV Vanco x 6 weeks
   - Continue neosynephrine  to MAP>65, wean as tolerated
   - f/up micro/ culture data, none positive so far
   - took 1.5 L off last night pre-bronch today so may need to ease up on
   lasix drip later today as long as MAPs appropriate and now CVPs
   trending < 5
   .
   # Atach/afib : Plan to continue on Amiodarone.  [**Month (only) 51**] switch to quinidine
   as outpt, but per EP will likely just plan to switch to PO amiodarone
   as he has responded well to this therapy. Overnight still had several
   brief runs of SVT but no need for any re-bolus of amiodarone as
   resolved  quickly. [**Month (only) 51**] have been due to volume changes and increased
   diuresis.
   - continue PO amiodarone with re-bolus PRN
   -cont telemetry
   -follow K, Mg   PM labs  and replete aggressively
   .
   #HCT Drop :  Improved now from 27-28 up to 30 range. [**Month (only) 51**] be stress
   gastritis. Hct has been stable, has not required transfusions since
   [**5-2**].
   -will trend HCTs [**Hospital1 7**], keep >25
   - active T/S
   # [**Last Name (un) **] : Cr still elevated at 1.8 range today . Likely elevated In
   setting of ongoing hypotension issues and probable element of recent
   ATN.
   - Repeat PM lytes
   - Follow urine output (keep UOP>50cc/hr) which has been good
   # CAD,s/p CABG: No active issues
   --have been holding Plavix for past week for IP bronch/biopsy today
   - continue  ASA 81mg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT:   pneumoboots
   Stress ulcer:   omeprazole 40 [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-05-06 11:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M CAD, COPD, lung CA, here w mrsa pneumonia and bacteremia.  His
   hospital course has been notable for bronchoscopy with finding of new
   LUL mass concerning for carcinoma
   24 Hour Events:
   bronchoscopy and biopsy this morning by IP,, TBBX and endobronchial
   biopsy performed, tolerated well, no bleeding
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-5**] 12:00 PM
   Piperacillin - [**2183-5-6**] 04:00 AM
   Vancomycin - [**2183-5-6**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-5-5**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-6**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 80 (80 - 105) bpm
   BP: 124/54(77) {87/38(56) - 149/58(88)} mmHg
   RR: 8 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 3 (2 - 8)mmHg
   Total In:
                                                                  2,727 mL
                                                                    761 mL
   PO:
   TF:
                                                                  1,051 mL
   IVF:
                                                                  1,505 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                    970 mL
   Urine:
                                                                  3,710 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -983 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 370 (370 - 370) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 33.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/55/77/38/14
   Ve: 6.2 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   209 K/uL
   138 mg/dL
   1.8 mg/dL
   38 mEq/L
   3.3 mEq/L
   26 mg/dL
   97 mEq/L
   144 mEq/L
   30.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2183-5-3**]  04:42 PM
                             [**2183-5-4**]  05:58 AM
                             [**2183-5-4**]  06:14 AM
                             [**2183-5-4**]  12:38 PM
                             [**2183-5-4**]  05:52 PM
                             [**2183-5-5**]  04:18 AM
                             [**2183-5-5**]  04:34 AM
                             [**2183-5-5**]  01:55 PM
                             [**2183-5-6**]  04:18 AM
                             [**2183-5-6**]  04:36 AM
   WBC
   9.7
   10.4
   10.6
   11.8
   Hct
   28.7
   28.9
   29.1
   27.6
   28.0
   30.1
   Plt
   159
   175
   178
   209
   Cr
   1.8
   1.6
   1.7
   1.7
   1.8
   TCO2
   40
   39
   43
   42
   Glucose
   [**Telephone/Fax (3) 14564**]36
   138
   Other labs: PT / PTT / INR:11.4/27.5/0.9, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:39/36, Alk Phos / T Bili:87/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   68 yo M CAD, COPD, lung CA, here w mrsa pneumonia and bacteremia.  His
   hospital course has been notable for bronchoscopy with finding of new
   LUL mass concerning for carcinoma
   1. Respiratory failure: multifactorial related to MRSA PNA, recurrent
   lung ca, volume overload
     - cont vancomycin 6 weeks
    - cont aim TBB negative
    - cont steroids taper
    - will change to PSV once he reverses from procedural paralysis
   2. LUL mass: s/p bronchoscopy today
    - will follow-up biopsy results
    - restart plavix tomorrow
   3. Hypotension: currently likely [**2-25**] sedation and biopsy with ICM
    - will cont monitor as paralytics wear off
    - monitor CVO2, lactate
    - neo for BP support
   4. Afib/svt: overall stable but has transient tachycardic events with
   low blood pressure, he improves spontanously
    - cont amiodarone 400 [**Hospital1 **]
    - mg> 2, K > 4
   5. Hct drop: stable, likely stress gastritis, cont PPI
   6. CAD: cont asa, restart plavix tomorrow, holding BB while on pressors
   7. Overal goals of care:
    - pt with 2 intubatiosn, likely prolonged ventilator wean, now likely
   new diagnosis recurrent malignancy.  This malignancy is likely not
   effecting his short-term mortality but does impact 1 year mortality,
   his family (wife) states that she would want him to be comfortable,
   they would like to wait for biopsy results prior to making decision
   regarding trach and peg placement.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-05-07 06:24:00 Physician Resident Progress Note
Chief Complaint:
   68yo M with CAD (s/p CABG), COPD on home O2, h/o lung cancer ( prior
   RUL lobectomy '[**69**]) admitted with MRSA PNA and sepsis needing intubation
   & pressors and now awaiting IP bronch/biopsy for concern for recurrent
   lung CA
   [**97**] Hour Events:
   - afib much better overnight, no notable SVT flare ups
   - underwent biopsy with IP
   - weaned off neosynephrine at 9am this AM
   - RSBI 104 this morning and had increased tachypnea on pressure support
   ( 15/5/.35)  - given 150mg IV amio bolus and 500c NS bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-5**] 12:00 PM
   Vancomycin - [**2183-5-6**] 08:00 AM
   Piperacillin - [**2183-5-7**] 04:00 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-7**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 81 (80 - 105) bpm
   BP: 85/44(58) {85/38(58) - 128/62(84)} mmHg
   RR: 22 (3 - 26) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 6 (2 - 8)mmHg
   Total In:
                                                                  1,567 mL
                                                                    589 mL
   PO:
   TF:
                                                                    254 mL
                                                                    288 mL
   IVF:
                                                                  1,254 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    265 mL
   Urine:
                                                                  2,495 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -928 mL
                                                                    324 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 370 (370 - 370) mL
   Vt (Spontaneous): 423 (314 - 423) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 104
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.50/50/76.[**Numeric Identifier 126**]/36/12
   Ve: 8.6 L/min
   PaO2 / FiO2: 217
   Physical Examination
   Gen: Intubated, sedated, NAD
   HEENT:   pupils reactive / slightly asymmetric ( usual baseline
   aniscoria), EOMI
   Lungs:  bibasilar rhonchi  ( L>R)  , no wheezes, no significant rhonchi
   auscultated over anterior apices
   CVS: RRR, no new murmurs / rubs
   Abd: obese, soft, normoactive bowel sounds throughout
   LE: 2+ pedal pulses, +pneumoboots in place, warm to touch
   Labs / Radiology
   196 K/uL
   9.4 g/dL
   161 mg/dL
   1.6 mg/dL
   36 mEq/L
   3.3 mEq/L
   24 mg/dL
   99 mEq/L
   142 mEq/L
   28.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2183-5-4**]  12:38 PM
                             [**2183-5-4**]  05:52 PM
                             [**2183-5-5**]  04:18 AM
                             [**2183-5-5**]  04:34 AM
                             [**2183-5-5**]  01:55 PM
                             [**2183-5-6**]  04:18 AM
                             [**2183-5-6**]  04:36 AM
                             [**2183-5-6**]  12:55 PM
                             [**2183-5-7**]  03:09 AM
                             [**2183-5-7**]  03:56 AM
   WBC
   10.4
   10.6
   11.8
   10.2
   Hct
   29.1
   27.6
   28.0
   30.1
   29.7
   28.2
   Plt
   175
   178
   209
   196
   Cr
   1.7
   1.7
   1.8
   1.6
   TCO2
   39
   43
   42
   40
   Glucose
   162
   236
   138
   161
   Other labs: PT / PTT / INR:11.9/26.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   L mass biopsy [**5-6**] pending
   All BCx no growth
   Assessment and Plan:
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia s/p biopsy of new L lobe mass.
   .
   # Respiratory failure:  Multifactorial etiology. Baseline COPD and s/p
   RUL lobectomy in
96 for lung cancer. On serial imaging he has less
   lung volume on R and now with a newer left sided lung mass which was
   biopsied with IP on [**5-6**].  Despite multiple antibiotics for PNA
   patient
s respiratory failure has required prolonged intubation.  Poor
   lung compliance, excessive secretions, and ongoing volume overload
   issues continue to challenge his ventilation in ICU which we have been
   working to improve with diuresis, secretion control. RSBI in low 100s
   this morning but had tachycardia in SBT.
   - hold on extubation before clarify goals
   - f/up IP bronch/biopsy  results
   -Run his I/Os even today
   - Continue steroid taper and MDIs  ( PO prednisone
 day#17 today, down
   to 10mg daily)
   - Talk to family regarding trach/PEG vs DNR/DNI status with trial of
   extubation
   #HAP : Recent MRSA PNA and bacteremia. No recent fevers or
   leukocytosis.
   - continue Zosyn x 10 days total (day #7 today) and IV Vanco x 6 weeks
   - CIS
   .
   # L sided lung mass:  major concern for cancer recurrence
   - follow-up results of repeat bronch/biopsy today by IP
   # Hypotension:  Better overnight.  He had some paralytics for IP
   procedure yesterday and was more heavily diuresed pre-procedure which
   likely  created his lower CVPs yesterday and low BPs.  Poor cardiac
   function, propofol effects / amiodarone therapy continue to add to his
   low BPs. Were able to wean down off pressors this AM. [**Month (only) 51**] be [**2-25**]
   propofol hypotension so may still need low dose with re-sedation
   - Try to stay off pressors if possible, can do fluid boluses prn
   - f/up micro/ culture data
   - monitor I/Os with goal even/slightly negative today, try to maintain
   UOP > 30cc/hr with close watch on CVPs ( goal >7) & MAPs ( >65)
   .
   # Atach/afib : Plan to continue on Amiodarone.  [**Month (only) 51**] switch to quinidine
   as outpt, but per EP will likely just plan to switch to PO amiodarone
   as he has responded well to this therapy. Overnight still had several
   brief runs of SVT but no need for any re-bolus of amiodarone as
   resolved  quickly. [**Month (only) 51**] have been due to volume changes and increased
   diuresis.
   - continue PO amiodarone with re-bolus PRN, especially when we trial
   extubation
   -cont telemetry
   -follow K, Mg   PM labs  and replete aggressively
   .
   #HCT Drop :  Stable now at 28 -30 range. [**Month (only) 51**] be stress gastritis. Has
   not required transfusions since [**5-2**].
   -will trend HCTs [**Hospital1 7**], keep >25 given CAD history
   - active T/S
   # [**Last Name (un) **] : Cr still elevated at 1.6  range today ( has been 1.6-1.8 past
   few days)  . Likely elevated In setting of ongoing hypotension issues
   and probable element of recent  ATN earlier in ICU course.
   - Repeat PM lytes
   - Follow urine output (keep UOP>40cc/hr) which has been good
   # CAD,s/p CABG: No active issues
   - restarted on plavix yesterday, continue plavix
   - continue  ASA 81mg
   # Anxiety
 Patient with delirium/anxiety when not intubated last time.
   Psych was following prior for this
   - check EKG to see whether can use haldol prn (ie: 1mg PO Q8hr prn)
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-5-6**] 10:48 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT:  boots, SC heparin
   Stress ulcer:  PPI
   VAP:  still on Zosyn/Vanco
   Comments:
   Communication:  Comments: Family at bedside. Need to clarify about
   reintubation wishes/trach/PEG
   Code status: Full code
   Disposition: ICU

2183-05-07 11:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo M with COPD, CHF, CAD who presented iwth MRSA pneumonia and
   bacteremia and subsequently has been found to have RUL mass
   24 Hour Events:
   IP biopsy of pulmonary mass
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-5**] 12:00 PM
   Piperacillin - [**2183-5-7**] 04:00 AM
   Vancomycin - [**2183-5-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2183-5-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2183-5-7**] 08:00 AM
   Amiodarone - [**2183-5-7**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-7**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 88 (80 - 133) bpm
   BP: 89/45(59) {72/39(50) - 128/70(86)} mmHg
   RR: 22 (4 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 7 (2 - 8)mmHg
   Total In:
                                                                  1,567 mL
                                                                  1,497 mL
   PO:
   TF:
                                                                    254 mL
                                                                    318 mL
   IVF:
                                                                  1,254 mL
                                                                  1,179 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    810 mL
   Urine:
                                                                  2,495 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -928 mL
                                                                    687 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 423 (314 - 423) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 61
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.50/48/80.[**Numeric Identifier 176**]/36/11
   Ve: 8.6 L/min
   PaO2 / FiO2: 229
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   9.4 g/dL
   196 K/uL
   161 mg/dL
   1.6 mg/dL
   36 mEq/L
   3.3 mEq/L
   24 mg/dL
   99 mEq/L
   142 mEq/L
   28.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2183-5-4**]  05:52 PM
                             [**2183-5-5**]  04:18 AM
                             [**2183-5-5**]  04:34 AM
                             [**2183-5-5**]  01:55 PM
                             [**2183-5-6**]  04:18 AM
                             [**2183-5-6**]  04:36 AM
                             [**2183-5-6**]  12:55 PM
                             [**2183-5-7**]  03:09 AM
                             [**2183-5-7**]  03:56 AM
                             [**2183-5-7**]  09:58 AM
   WBC
   10.4
   10.6
   11.8
   10.2
   Hct
   29.1
   27.6
   28.0
   30.1
   29.7
   28.2
   Plt
   175
   178
   209
   196
   Cr
   1.7
   1.7
   1.8
   1.6
   TCO2
   43
   42
   40
   39
   Glucose
   162
   236
   138
   161
   Other labs: PT / PTT / INR:11.9/26.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   1. Respiratory failure: much improved this morning, tolerated 1 hour
   SBT but then developed SVT at the end with HoTN requiring amiodarone
   bolus.  He still has some element of volume overload but overall
   secretions and infiltrate have improved
    - cont PSV with minimal settings, repeat SBT 0/0 x 30 min if fails
   then consider trach & PEG
    - cont to aim tbb even to negative 500 cc
    - cont steroid taper 10 mg
    - day [**8-2**] zosyn
   2. LUL mass; f/u pathology results, will likely need staging CT
   3. MRSA pna/bacteremia: cont 6 weeks vancomycin
   4. CAD: hold plavix, cont asa, bb
   5. SVT: cont amiodarone, s/p bolus this morning, occured in the setting
   of SBT and may be related to increased wob
   6. aggitation: will check ekg and if QTc < 450 then will start standing
   haldol
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-05-08 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2183-5-7**] 04:00 PM
 INVASIVE VENTILATION - STOP [**2183-5-7**] 04:07 PM
   - biopsy results will be rushed per path , still few days
   - no longer plan for PEG/trach as patient extubated
   --got SVT after extubated, gave IVF bolus 500cc and amiodarone 150
   --still tachy --so started lopressor 5mg IV q6
   -brief desat last night to high 80s / RR 30s -needed face mask , got
   suctioned and recovered
   - CvO2 sats 80-90s, lactate .9/1.0
   - EKG with borderline QT long, switched between Haldol and very small
   dose Ativan --worked very well to calm him down
   - tried to get out of bed, almost fell
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical [**Name2 (NI) 9672**] Known
   Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-5**] 12:00 PM
   Vancomycin - [**2183-5-7**] 08:00 AM
   Piperacillin - [**2183-5-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2183-5-7**] 08:00 AM
   Amiodarone - [**2183-5-7**] 05:11 PM
   Heparin Sodium (Prophylaxis) - [**2183-5-8**] 12:00 AM
   Lorazepam (Ativan) - [**2183-5-8**] 01:29 AM
   Metoprolol - [**2183-5-8**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-8**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 37.2
C (99
   Tcurrent: 35.6
C (96
   HR: 81 (80 - 133) bpm
   BP: 104/46(65) {72/28(45) - 122/70(86)} mmHg
   RR: 28 (14 - 51) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 11 (2 - 21)mmHg
   Total In:
                                                                  3,118 mL
                                                                    266 mL
   PO:
   TF:
                                                                    519 mL
   IVF:
                                                                  2,509 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    195 mL
   Urine:
                                                                    945 mL
                                                                    195 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                  1,273 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (339 - 356) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 95%
   RSBI: 68
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.42/54/228/31/9
   Ve: 10.1 L/min
   PaO2 / FiO2: 240
   Physical Examination:
   General: more alert and oriented x 3, NAD, pallid complexion, off of
   vent today with face mask and NC in place, mild accessory mm. used to
   breath
   HEENT: PERRL, EOMI, OP clear
   Neck: supple, JVP 8cm
   CVS: S1/ S2 regular,  RRR, no murmurs
   Lungs:  bibasilar crackles, anterior rhonchi
   Labs / Radiology
   144 K/uL
   8.4 g/dL
   116 mg/dL
   1.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   23 mg/dL
   101 mEq/L
   141 mEq/L
   26.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2183-5-6**]  04:18 AM
                             [**2183-5-6**]  04:36 AM
                             [**2183-5-6**]  12:55 PM
                             [**2183-5-7**]  03:09 AM
                             [**2183-5-7**]  03:56 AM
                             [**2183-5-7**]  09:58 AM
                             [**2183-5-7**]  06:33 PM
                             [**2183-5-8**]  01:40 AM
                             [**2183-5-8**]  02:49 AM
                             [**2183-5-8**]  03:14 AM
   WBC
   11.8
   10.2
   8.0
   Hct
   30.1
   29.7
   28.2
   26.3
   Plt
   [**Telephone/Fax (3) 14591**]
   Cr
   1.8
   1.6
   1.6
   1.6
   TCO2
   42
   40
   39
   35
   36
   Glucose
   138
   161
   114
   116
   Other labs: PT / PTT / INR:11.9/26.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia s/p biopsy of new L lobe mass.
   .
   # Respiratory failure:  Extubated yesterday. Multifactorial etiology.
   Baseline COPD and s/p RUL lobectomy in
96 for lung cancer. On serial
   imaging he has less lung volume on R and now with a newer left sided
   lung mass which was biopsied with IP on [**5-6**].  Despite multiple
   antibiotics for PNA patient
s respiratory failure has required
   prolonged intubation.  Poor lung compliance, excessive secretions, and
   ongoing volume overload issues continue to challenge his ventilation in
   ICU which we have been working to improve with diuresis, secretion
   control. RSBI in low 100s this morning but had tachycardia in SBT.
   - f/up IP bronch/biopsy  results
   - run his I/Os negative today ( neg 1-2 L )
   - Continue steroid taper and MDIs  ( PO prednisone
 day#18 today, down
   to 10mg daily)
   - Talk to family regarding trach/PEG vs DNR/DNI status with trial of
   extubation
   # Delirium: Patient with delirium/anxiety when not sedated.
   - continue Haldol 3mg qpm and 1-2 mg PRN q 8 hrs during daytime
   - check EKG / QT  today
   -consider using depakote
   #HAP : Recent MRSA PNA and bacteremia. No recent fevers or
   leukocytosis.
   - continue Zosyn x 10 days total (day #8 today) and IV Vanco x 6 weeks
   - CIS
   - change Vanco to 1g q 24 hours
   .
   # L sided lung mass:  IP biopsy results now confirmed as squamous cell
   lung cancer.
   - consider family meeting with goals of care changes
   - staging with CT studies once more stable
   -heme/onc consult today  & possibly RAD/Onc involvement
   # Hypotension:  Off pressors. Improved off propofol sedation
   - f/up micro/ culture data
   - monitor I/Os with goal even/slightly negative today, try to maintain
   UOP > 30cc/hr with close watch on CVPs ( goal >7) & MAPs ( >65)
   .
   # Atach/afib: Plan to continue on PO Amiodarone.  Overnight still had
   several brief runs of SVT but no need for any re-bolus of amiodarone as
   resolved  quickly. [**Month (only) 51**] have been due to volume changes and increased
   diuresis.
   -continue lopressor 5mg q 4hrs for control
   - continue PO amiodarone
   -cont telemetry
   -follow K, Mg   PM labs  and replete aggressively
   .
   #HCT Drop :  Decreased to 26.[**5-26**] be stress gastritis. Has not
   required transfusions since [**5-2**].
   -will trend HCTs [**Hospital1 7**], keep >25 given CAD history
   - active T/S
   - guaiac stools
   # CKI : Cr still elevated at 1.6  range today ( has been 1.6-1.8 past
   few days)  . Likely elevated In setting of ongoing hypotension issues
   and probable element of recent  ATN earlier in ICU course. Given
   longevity this is likely CRF with new baseline vs. [**Last Name (un) **].
   - Repeat PM lytes
   - Follow urine output (keep UOP>40cc/hr) which has been good
   # CAD,s/p CABG: No active issues
   - restarted on plavix yesterday, continue plavix
   - continue  ASA 81mg
   #CHF:  recent EF 35%
   - consider starting ACE
   -will diuresed to goal negative 1-2L today
   - keep MAPs >65
   ICU Care
   Nutrition: Restart tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2183-05-08 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M COPD, CHF, RULectomy for SCLCA here with MRSA pna/bactermia and
   now found to have new LUL lesion
   24 Hour Events:
   Extubated yesterday and tolerated well, with brief tachycardia, brief
   hypoxemia overnight that responded to suctioning
   Became aggitated overnight and received haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-5-5**] 12:00 PM
   Vancomycin - [**2183-5-7**] 08:00 AM
   Piperacillin - [**2183-5-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Amiodarone - [**2183-5-7**] 05:11 PM
   Lorazepam (Ativan) - [**2183-5-8**] 01:29 AM
   Metoprolol - [**2183-5-8**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2183-5-8**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-8**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 82 (80 - 99) bpm
   BP: 124/55(77) {83/28(45) - 126/63(80)} mmHg
   RR: 22 (20 - 51) insp/min
   SpO2: 94%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 13 (2 - 21)mmHg
   Total In:
                                                                  3,118 mL
                                                                    575 mL
   PO:
   TF:
                                                                    519 mL
   IVF:
                                                                  2,509 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    565 mL
   Urine:
                                                                    945 mL
                                                                    565 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                  1,273 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 68
   SpO2: 94%
   ABG: 7.42/54/228/31/9
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: confused
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: No(t) Resonant : ), (Breath Sounds:
   Wheezes : , Rhonchorous: diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   8.4 g/dL
   144 K/uL
   116 mg/dL
   1.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   23 mg/dL
   101 mEq/L
   141 mEq/L
   26.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2183-5-6**]  04:18 AM
                             [**2183-5-6**]  04:36 AM
                             [**2183-5-6**]  12:55 PM
                             [**2183-5-7**]  03:09 AM
                             [**2183-5-7**]  03:56 AM
                             [**2183-5-7**]  09:58 AM
                             [**2183-5-7**]  06:33 PM
                             [**2183-5-8**]  01:40 AM
                             [**2183-5-8**]  02:49 AM
                             [**2183-5-8**]  03:14 AM
   WBC
   11.8
   10.2
   8.0
   Hct
   30.1
   29.7
   28.2
   26.3
   Plt
   [**Telephone/Fax (3) 14591**]
   Cr
   1.8
   1.6
   1.6
   1.6
   TCO2
   42
   40
   39
   35
   36
   Glucose
   138
   161
   114
   116
   Other labs: PT / PTT / INR:11.9/26.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   68 yo M COPD, CHF, RULectomy for SCLCA here with MRSA pna/bactermia and
   now found to have new LUL lesion
   1. Respiratory failure: stable s/p extubation with minimal secretions,
   likely [**2-25**] cardiogenic edema
    - cont aim tbb negative (1L)
    - cont aggressive pulmonary toilet including NT suctioning
    - cont prednisone 10 mg
   2. Recurrent lung CA:
    - will meet with wife and family regarding biopsy results and overall
   goals of care, he will need staging work-up
   3. Atrial Tachycardia, AFib
    - cont amiodarone
    - cont IV lopressor 5 mg q 4hr . consider initiating PO lopressor tid.
   4. CAD with CHF:
    - continue diuresis
    - cont lasix gtt aim - 1l for CVP </= 4
    - if bp remains stable would start captopril
    - cont asa/plavix
   5. Delirium:
    - haldol 2mg prn during the day and 3mg standing in afternoon as
   sundowning prophylaxis and daily ekg
   6. HoTN: much improved off propofol
    - will continue to treat tachycardia then address bp management
   7. Decreasing hct: cont guaiac stools, f/u hct
   8. CKD: creatinine stable at 1.6
   ICU Care
   Nutrition:
   Comments: resume tube feeds via doboff today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2183-05-09 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Maintained on lasix gtt for diuresis until Cr increased and gtt
   turned off overnight
   - Metoprolol increased to control tachycardia
   - Patient's Dobhoff pulled out of place, all essential meds changed to
   IV overnight
   - Repeat gas with pCO2 52, weaning down on face mask slowly as
   tolerated overnight
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-5-8**] 08:31 PM
   Vancomycin - [**2183-5-8**] 09:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2183-5-8**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2183-5-9**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-9**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 84 (80 - 106) bpm
   BP: 126/52(76) {102/44(63) - 131/57(80)} mmHg
   RR: 21 (20 - 39) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: -1 (-9 - 47)mmHg
   Total In:
                                                                  1,265 mL
                                                                     99 mL
   PO:
   TF:
   IVF:
                                                                    905 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                  1,160 mL
   Urine:
                                                                  2,015 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,100 mL
                                                                 -1,061 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.44/52/60/32/9
   PaO2 / FiO2: 150
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   8.8 g/dL
   114 mg/dL
   1.9 mg/dL
   32 mEq/L
   4.7 mEq/L
   25 mg/dL
   101 mEq/L
   143 mEq/L
   27.2 %
   7.8 K/uL
        [image002.jpg]
                             [**2183-5-7**]  03:09 AM
                             [**2183-5-7**]  03:56 AM
                             [**2183-5-7**]  09:58 AM
                             [**2183-5-7**]  06:33 PM
                             [**2183-5-8**]  01:40 AM
                             [**2183-5-8**]  02:49 AM
                             [**2183-5-8**]  03:14 AM
                             [**2183-5-8**]  12:37 PM
                             [**2183-5-8**]  06:06 PM
                             [**2183-5-8**]  11:58 PM
   WBC
   10.2
   8.0
   7.8
   Hct
   28.2
   26.3
   27.2
   Plt
   196
   144
   172
   Cr
   1.6
   1.6
   1.6
   1.9
   TCO2
   40
   39
   35
   36
   35
   36
   Glucose
   161
   114
   116
   114
   Other labs: PT / PTT / INR:11.9/26.4/1.0, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:9.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia s/p biopsy of new L lobe mass.
   .
   # Respiratory failure:  Extubated yesterday and has been stable off
   vent so far, still with high O2 requirement but weaning down. Will help
   his respiratory status by diuresis as CXR showing more fluid in lungs
   s/p extubation
   - run his I/Os negative today ( neg 1-2 L )
   - Continue steroid taper and MDIs  ( PO prednisone
 day#18 today, down
   to 10mg daily)
   - Talk to family regarding pathology results of squamous cell ca and
   goals of care/next steps
   # Delirium: Patient with delirium/anxiety when not sedated.
   - continue Haldol 3mg qpm and 1-2 mg PRN q 8 hrs during daytime
   - check EKG / QT  today
   -consider using depakote
   #HAP : Recent MRSA PNA and bacteremia. No recent fevers or
   leukocytosis.
   - continue Zosyn x 10 days total (day #8 today) and IV Vanco x 6 weeks
   - CIS
   - change Vanco to 1g q 24 hours
   .
   # L sided lung mass:  IP biopsy results now confirmed as squamous cell
   lung cancer.
   - consider family meeting with goals of care changes
   - staging with CT studies once more stable
   -heme/onc consult today  & possibly RAD/Onc involvement
   # CAD,s/p CABG: No active issues
   - restarted on beta blocker and titrate up for now
   - restarted on plavix yesterday, continue plavix
   - continue  ASA 81mg
   - start ACE today or tomorrow as tolerated for afterload reduction
   #CHF:  recent EF 35%. Fluid overloaded on exam
   - consider starting ACE today or tomorrow, BP allowing
   -will diuresed to goal negative 1-2L today
   - keep MAPs >65
   # Hypotension:  Off pressors. Improved off propofol sedation
   - f/up micro/ culture data
   - monitor I/Os with goal even/slightly negative today, try to maintain
   UOP > 30cc/hr with close watch on CVPs ( goal >7) & MAPs ( >65)
   .
   # Atach/afib: Plan to continue on PO Amiodarone.  Overnight still had
   several brief runs of SVT but no need for any re-bolus of amiodarone as
   resolved  quickly. [**Month (only) 51**] have been due to volume changes and increased
   diuresis.
   -continue lopressor 5mg q 4hrs for control
   - continue PO amiodarone
   -cont telemetry
   -follow K, Mg   PM labs  and replete aggressively
   .
   #HCT Drop :  Decreased to 26.[**5-26**] be stress gastritis. Has not
   required transfusions since [**5-2**].
   -will trend HCTs [**Hospital1 7**], keep >25 given CAD history
   - active T/S
   - guaiac stools
   # CKI : Cr still elevated at 1.6  range today ( has been 1.6-1.8 past
   few days)  . Likely elevated In setting of ongoing hypotension issues
   and probable element of recent  ATN earlier in ICU course. Given
   longevity this is likely CRF with new baseline vs. [**Last Name (un) **].
   - Repeat PM lytes
   - Follow urine output (keep UOP>40cc/hr) which has been good
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-05-09 12:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66 yo M COPD, CHF, history of SCLCA s/p rul resection, presetned with
   MRSA bacteremia and pna and found to have recurrent LUL lung CA.
   24 Hour Events:
   self-discontinued his doboff catheter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-8**] 09:00 PM
   Piperacillin - [**2183-5-9**] 04:29 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-5-9**] 08:56 AM
   Metoprolol - [**2183-5-9**] 08:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-9**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 82 (80 - 106) bpm
   BP: 115/48(69) {102/44(63) - 131/57(80)} mmHg
   RR: 28 (20 - 39) insp/min
   SpO2: 88%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 11 (-9 - 47)mmHg
   Total In:
                                                                  1,265 mL
                                                                    398 mL
   PO:
   TF:
   IVF:
                                                                    905 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  2,365 mL
                                                                  2,135 mL
   Urine:
                                                                  2,015 mL
                                                                  2,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,100 mL
                                                                 -1,737 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 88%
   ABG: 7.44/52/60/32/9
   PaO2 / FiO2: 63
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : diffusely, anteriorly)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   8.7 g/dL
   172 K/uL
   137 mg/dL
   1.8 mg/dL
   32 mEq/L
   3.3 mEq/L
   25 mg/dL
   101 mEq/L
   146 mEq/L
   27.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2183-5-7**]  03:56 AM
                             [**2183-5-7**]  09:58 AM
                             [**2183-5-7**]  06:33 PM
                             [**2183-5-8**]  01:40 AM
                             [**2183-5-8**]  02:49 AM
                             [**2183-5-8**]  03:14 AM
                             [**2183-5-8**]  12:37 PM
                             [**2183-5-8**]  06:06 PM
                             [**2183-5-8**]  11:58 PM
                             [**2183-5-9**]  06:02 AM
   WBC
   8.0
   7.8
   7.5
   Hct
   26.3
   27.2
   27.3
   Plt
   144
   172
   172
   Cr
   1.6
   1.6
   1.9
   1.8
   TCO2
   40
   39
   35
   36
   35
   36
   Glucose
   114
   116
   114
   137
   Other labs: PT / PTT / INR:12.6/33.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   66 yo M COPD, CHF, history of SCLCA s/p rul resection, presetned with
   MRSA bacteremia and pna and found to have recurrent LUL lung CA.
   1. Respiratory failure: volume overload, COPD, improving pneumonia
    - he has been diuresed with improvement
    - d/c zosyn, cont vanc for total 6 weeks
    - increased wheeze  this am which may represent COPD, will continue
   standing nebs
    - Will aim for SaO2 88-92%
   2. Confusion: somewhat improved
    - he did not receive his standing haldol overnight [**2-25**] absence of
   doboff, and did not demosntrate significant aggitation but will
   continue once doboff placed
   3. Squamous cell carcinoma
    -will meet with family this morning to discuss overall goals of care
   4. Atrial tachycardia:
    - will continue amiodarone and lopressor
   5. AoCRF: likely pre-renal in setting of diuresis, will d/c lasix gtt
   6. FEN:
    - will place doboff and restart tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Multi Lumen - [**2183-5-3**] 01:35 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:  DNR/DNI
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2183-05-10 06:42:00 Physician Resident Progress Note
Chief Complaint:
   68yo M with CAD, CABG, severe COPD & prior lung CA  requiring lobectomy
   who was admitted w / hypoxia in setting of MRSA PNA and now has
   recurrent lung Cancer with ongoing elevated O2 requirements despite
   extubation.
   24 Hour Events:
   - Made DNR/DNI per d/w wife
   - Asked palliative care to see pt
   - Central line pulled
   - Dophoff replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-8**] 09:00 PM
   Piperacillin - [**2183-5-9**] 04:29 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-5-9**] 04:30 PM
   Furosemide (Lasix) - [**2183-5-9**] 07:02 PM
   Haloperidol (Haldol) - [**2183-5-9**] 10:18 PM
   Metoprolol - [**2183-5-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-10**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 97 (72 - 97) bpm
   BP: 120/52(73) {100/44(63) - 150/82(92)} mmHg
   RR: 17 (14 - 36) insp/min
   SpO2: 89%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
    CVP: 11 (8 - 13)mmHg
   Total In:
                                                                    710 mL
                                                                    257 mL
   PO:
   TF:
                                                                     17 mL
                                                                     67 mL
   IVF:
                                                                    583 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  3,750 mL
                                                                    240 mL
   Urine:
                                                                  3,750 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,040 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 89%
   ABG: 7.42/56/55/33/9
   PaO2 / FiO2: 92
   Physical Examination
   General:  alert and oriented x2, NAD, on high flow mask ( 60% Fio2)
   HEENT: PERRL, EOMI, OP dry but clear
   CVS: s1/s2 reg, RRR but borderline tachycardic, no new murmurs / rubs
   LUNGS: anterior apical rhonchi and bilateral crackles at bases
   bilaterally
   ABD: NT/ND, normoactive BS, soft
   EXT: 2+ pedal pulses, boots in place
   SKIN: dry, pallid, no rashes
   Labs / Radiology
   [**5-10**] CBC
   203K/uL
   9.3g/dL
   113 mg/dL
   1.6 mg/dL
   33 mEq/L
   3.0 mEq/L
   23 mg/dL
   98 mEq/L
   142 mEq/L
   28.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2183-5-7**]  06:33 PM
                             [**2183-5-8**]  01:40 AM
                             [**2183-5-8**]  02:49 AM
                             [**2183-5-8**]  03:14 AM
                             [**2183-5-8**]  12:37 PM
                             [**2183-5-8**]  06:06 PM
                             [**2183-5-8**]  11:58 PM
                             [**2183-5-9**]  06:02 AM
                             [**2183-5-9**]  01:24 PM
                             [**2183-5-10**]  12:13 AM
   WBC
   8.0
   7.8
   7.5
   Hct
   26.3
   27.2
   27.3
   Plt
   144
   172
   172
   Cr
   1.6
   1.6
   1.9
   1.8
   1.6
   TCO2
   35
   36
   35
   36
   38
   Glucose
   114
   116
   114
   137
   113
   Other labs: PT / PTT / INR:12.6/33.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia and now has recurrent lung cancer
   diagnosis s/p recent biopsy of  left  lobe mass.
   .
   # Respiratory failure:  Extubated >48hrs ago and has been stable off
   vent so far, still with very high O2 requirements but weaning down
   gradually. Yesturday patient had worse pulm overload on  CXR so he was
   diuresed more aggressively and he is negative 3L today.
   - run his I/Os negative 500cc to even today
   -lasix gtt only PRN , keeping UOP > 30cc/hr
   - Continue steroid taper and MDIs  ( PO prednisone
 day#19 today, down
   to 10mg daily)  - keep at 10mg for now as patient still with wheezing
   - continue  on standing nebs
   - wean FiO2 as tolerates , patient and family now decided do not want
   re-intubation if he decompensates to that point
   # Delirium: Patient with delirium/anxiety when not sedated. Reassess in
   afternoon
   - continue Haldol 3mg qpm and 1-2 mg PRN q 8 hrs during daytime
   - check EKG / QT  today
   -consider using depakote
   - check ABG
   - keep O2 sats around 90-92%
   #HAP : Recent MRSA PNA and bacteremia. No recent fevers or
   leukocytosis.
   - patient has finished his recent 10d  Zosyn  regimen and is now
   continuing IV Vanco x 6 weeks
   - CIS , trend fevers and WBCs
   .
   # L sided lung mass:  IP biopsy results now confirmed as squamous cell
   lung cancer.
   - family meeting done yesterday and goals of care changed to DNR/DNI
   - f/up palliative care team recs today
   - consider staging with CT studies once more stable
   - social work involved
   # CAD,s/p CABG: No active issues
   - restarted on beta blocker and titrate up for now
   - restarted on plavix yesterday, continue plavix
   - continue  ASA 81mg
   - start ACE when Cr improved tolerated for afterload reduction
 or can
   try hydral
   #CHF:  recent EF 35%. Patient more euvolemic today
   - consider starting ACE today or tomorrow, BP allowing
   - keep MAPs >65
   # Hypotension:  Off pressors. Improved off propofol sedation
   - f/up micro/ culture data
   - monitor I/Os with goal even/slightly negative today, try to maintain
   UOP > 30-40cc/hr with close watch on CVPs ( goal >7) & MAPs ( >65)
   .
   # Atach/afib: On IV Amiodarone while no POs
   -continue lopressor 5mg q 4hrs for control
   - continue amiodarone
   -cont telemetry
   -follow K, Mg   PM labs  and replete aggressively
   .
   #HCT Drop :  Has been stable [**Month (only) 51**] be stress gastritis. Has not required
   transfusions since [**5-2**].
   -will trend HCTs [**Hospital1 7**], keep >25 given CAD history
   - active T/S
   - guaiac stools
   # CKI : Cr still elevated at 1.6  range today ( has been 1.6-1.8 past
   few days)  . Likely in setting of diuresis. However, this may be a new
   chronic RF baseline for him.
   - Repeat PM lytes
   - Follow urine output (keep UOP>40cc/hr) which has been good
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-5-9**] 10:18 PM 10 mL/hour
   Glycemic Control:
   Lines:   --central line has been pulled*
   PICC Line - [**2183-4-21**] 02:27 PM
   Arterial Line - [**2183-5-1**] 03:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2183-05-10 11:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Made DNR/DNI yesterday after family meeting.
   CVC pulled yesterday.  New Dobhoff placed.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-5-9**] 04:29 AM
   Vancomycin - [**2183-5-10**] 09:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-5-9**] 07:02 PM
   Haloperidol (Haldol) - [**2183-5-9**] 10:18 PM
   Metoprolol - [**2183-5-10**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2183-5-10**] 07:59 AM
   Other medications:
   RISS, crestor, [**Last Name (LF) 8331**], [**First Name3 (LF) **], Prednisone 10mg, pantoprazole, amiodarone
   400mg [**Hospital1 7**].  Rest of meds per resident note.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-10**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 87 (72 - 103) bpm
   BP: 85/42(54) {69/36(45) - 115/58(70)} mmHg
   RR: 19 (14 - 36) insp/min
   SpO2: 95%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                    710 mL
                                                                  1,051 mL
   PO:
   TF:
                                                                     17 mL
                                                                    319 mL
   IVF:
                                                                    583 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                  3,750 mL
                                                                    384 mL
   Urine:
                                                                  3,750 mL
                                                                    384 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,040 mL
                                                                    667 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: 7.42/56/55/31/9
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, No(t) Wheezes
   : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   203 K/uL
   141 mg/dL
   1.8 mg/dL
   31 mEq/L
   4.1 mEq/L
   27 mg/dL
   101 mEq/L
   145 mEq/L
   28.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2183-5-8**]  01:40 AM
                             [**2183-5-8**]  02:49 AM
                             [**2183-5-8**]  03:14 AM
                             [**2183-5-8**]  12:37 PM
                             [**2183-5-8**]  06:06 PM
                             [**2183-5-8**]  11:58 PM
                             [**2183-5-9**]  06:02 AM
                             [**2183-5-9**]  01:24 PM
                             [**2183-5-10**]  12:13 AM
                             [**2183-5-10**]  05:58 AM
   WBC
   8.0
   7.8
   7.5
   7.3
   Hct
   26.3
   27.2
   27.3
   28.6
   Plt
   144
   172
   172
   203
   Cr
   1.6
   1.9
   1.8
   1.6
   1.8
   TCO2
   35
   36
   35
   36
   38
   Glucose
   116
   114
   137
   113
   141
   Other labs: PT / PTT / INR:12.6/33.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Vanc level: 20.8
   Imaging: CXR:  PICC in place.
   Microbiology: No recent cultures
   Assessment and Plan
   66 yo M COPD, CHF, history of SCLCA s/p rul resection, presetned with
   MRSA bacteremia and pna and found to have recurrent LUL lung CA.
    1. Respiratory failure: volume overload, COPD, improving pneumonia
   - Continues to diurese well.  TBB goal even to slightly negative today
   using lasix PRN but will watch BP closely given large diuresis
   yesterday.
   - cont vanc for total 6 weeks, completed 10 day Zosyn course
   - Sounds clearer today, continue prednisone taper and standing nebs.
   - Will aim for SaO2 88-92%
   2. Confusion: somewhat improved
   -Continues with Haldol now that dobhoff is placed.
   3. Squamous cell carcinoma:  Newly diagnosed recurrence.
   -If able to improve from current status, would consider staging eval
   4. Atrial tachycardia:
   - will continue amiodarone and lopressor
    5. AoCRF: Creatinine stably mildly elevated.  Will continue to monitor
   in context of diuresis.
    6. FEN:
   - TF started via dobhoff.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-5-9**] 10:18 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2183-05-11 06:49:00 Physician Resident Progress Note
Chief Complaint:
   68yo M with CAD, CABG, severe COPD & prior NSLC  who was admitted w /
   hypoxia in setting of MRSA PNA with bacteremia, now found to have
   recurrence of his lung CA
   [**97**] Hour Events:
   - got 40 IV lasix x2 overnight
   - got really agitated and got out of bed but responded to Haldol
   - EKG with normal QT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-5-9**] 04:29 AM
   Vancomycin - [**2183-5-10**] 09:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-5-10**] 03:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-11**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 89 (87 - 111) bpm
   BP: 119/54(73) {69/36(45) - 131/102(106)} mmHg
   RR: 23 (18 - 37) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  2,144 mL
                                                                    440 mL
   PO:
             TF:
                                                                    910 mL
                                                                    308 mL
   IVF:
                                                                    663 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,162 mL
                                                                    710 mL
   Urine:
                                                                    862 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    982 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///36/
   Physical Examination:
   General: nasal cannula in place, NAD, alert and oriented x 1 today
   HEENT: PERRL, EOMI
   CVS: S1/S2 reg, no m/r/g
   LUNGS:
   EXT: 2+ pedal pulses, boots
   ABD: nontender / nondistended, soft, normoactive bowel sounds
   SKIN: pallid complexion, warm , no new rashes
   Labs / Radiology
   260 K/uL
   9.1 g/dL
   165 mg/dL
   1.6 mg/dL
   36 mEq/L
   3.7 mEq/L
   37 mg/dL
   100 mEq/L
   146 mEq/L
   28.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2183-5-8**]  03:14 AM
                             [**2183-5-8**]  12:37 PM
                             [**2183-5-8**]  06:06 PM
                             [**2183-5-8**]  11:58 PM
                             [**2183-5-9**]  06:02 AM
                             [**2183-5-9**]  01:24 PM
                             [**2183-5-10**]  12:13 AM
                             [**2183-5-10**]  05:58 AM
                             [**2183-5-10**]  04:37 PM
                             [**2183-5-11**]  04:11 AM
   WBC
   7.8
   7.5
   7.3
   9.4
   Hct
   27.2
   27.3
   28.6
   28.1
   Plt
   172
   172
   203
   260
   Cr
   1.9
   1.8
   1.6
   1.8
   1.7
   1.6
   TCO2
   36
   35
   36
   38
   Glucose
   114
   137
   113
   141
   164
   165
   Other labs: PT / PTT / INR:12.9/25.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia and now has recurrent lung cancer
   diagnosis s/p recent biopsy of  left  lobe mass.
   .
   # Respiratory failure:
   Extubated  3  days ago and has been stable off vent so far, weaning
   his  O2 requirements  slowly.  He had been diuresed aggressively
   overnight for recent fluid overload.
   - run even today
   - keeping UOP > 30cc/hr , will taper diuresis today
   - Continue steroid taper / now 5mg daily prednisone  ( PO prednisone
   day#20 today, down to 5mg daily)  - keep at 5 mg for now as patient
   still with wheezing
   - continue  on standing nebs & MDIs
   - wean O2 as tolerates  ( on 5L NC now) , patient and family now
   decided do not want re-intubation if he decompensates to that point
   # Delirium:  Remains very confused intermittently c/w delirium and
   having only limited response to Haldol now.
   - continue Haldol 3mg qpm and 1-2 mg PRN q 8 hrs during daytime
   - will plan to add Seroquel HS to regimen
   - check EKG / QT  today given higher doses of Haldol
   - keep O2 sats  > 90% to avoid any hypoxia effects
   - wean steroids , now down to 5mg qdaily
   - reorient frequently, out of bed, enforce sleep/wake cycles
   - light restraints as needed
   .
   # NSCLC recurrence:  IP biopsy results now confirmed as squamous cell
   lung cancer.
   - family meeting done yesterday and goals of care changed to DNR/DNI
   - f/up palliative care team recs
 will be by to see team on Tuesday
   - will discuss with family whether further onc evaluation desired
   - social work involved
   # CAD,s/p CABG: No active issues
   - continue ASA, plavix  BB
   # CHF, systolic, chronic:  recent EF 35%. Patient more negative today
   - continue BB, uptitrate as tolerates
   -goal I/O even, checking PM lytes
   - consider ACEI when Cr trending back down
   .
   # Atach/afib:
   - continue metoprolol TID, uptitrate as tolerates
   - holding off on Amiodarone given concern for pulmonary fibrosis
   - monitoring on tele
   - follow K, Mg   PM labs  and replete aggressively
   .
   # Anemia
    Has been stable [**Month (only) 51**] be stress gastritis. Has not required transfusions
   since [**5-2**].
   -will trend HCTs [**Hospital1 7**], keep >25 given CAD history
   - active T/S
   - guaiac stools
   # CRI :
   Cr slightly up today in setting of diuresis
   - continue to follow urine output, Cr
   ICU Care
   Nutrition:  Dobhoff feeds
   Nutren Pulmonary (Full) - [**2183-5-11**] 01:56 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT:  boots in place , SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Patient is DNR/DNI per prior family meeting.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 201**], MD
   on:[**2183-5-12**] 10:42 ------

2183-05-11 11:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Delirious yesterday afternoon, trying to get out of bed, pulling at
   catheters.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-5-9**] 04:29 AM
   Vancomycin - [**2183-5-11**] 10:20 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2183-5-11**] 07:52 AM
   Heparin Sodium (Prophylaxis) - [**2183-5-11**] 08:51 AM
   Other medications:
   RISS, crestor, levothyroxine, ASA, lansoprazole, duonebs, metoprolol,
   amiodarone, prednisone 5mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-11**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96
   HR: 94 (89 - 111) bpm
   BP: 102/51(65) {80/44(56) - 131/102(106)} mmHg
   RR: 33 (18 - 37) insp/min
   SpO2: 92%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  2,144 mL
                                                                  1,178 mL
   PO:
             TF:
                                                                    910 mL
                                                                    506 mL
   IVF:
                                                                    663 mL
                                                                    462 mL
   Blood products:
   Total out:
                                                                  1,162 mL
                                                                    852 mL
   Urine:
                                                                    862 mL
                                                                    652 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    982 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///36/
   Physical Examination
   General Appearance: No acute distress, Sitting in chair
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : B/L insp/exp)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   260 K/uL
   165 mg/dL
   1.6 mg/dL
   36 mEq/L
   3.7 mEq/L
   37 mg/dL
   100 mEq/L
   146 mEq/L
   28.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2183-5-8**]  03:14 AM
                             [**2183-5-8**]  12:37 PM
                             [**2183-5-8**]  06:06 PM
                             [**2183-5-8**]  11:58 PM
                             [**2183-5-9**]  06:02 AM
                             [**2183-5-9**]  01:24 PM
                             [**2183-5-10**]  12:13 AM
                             [**2183-5-10**]  05:58 AM
                             [**2183-5-10**]  04:37 PM
                             [**2183-5-11**]  04:11 AM
   WBC
   7.8
   7.5
   7.3
   9.4
   Hct
   27.2
   27.3
   28.6
   28.1
   Plt
   172
   172
   203
   260
   Cr
   1.9
   1.8
   1.6
   1.8
   1.7
   1.6
   TCO2
   36
   35
   36
   38
   Glucose
   114
   137
   113
   141
   164
   165
   Other labs: PT / PTT / INR:12.9/25.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Imaging: No CXR today
   Microbiology: No new micro
   Assessment and Plan
   66 yo M COPD, CHF, history of SCLCA s/p rul resection, presetned with
   MRSA bacteremia and pna and found to have recurrent LUL lung CA.
   1. Respiratory failure: volume overload, COPD, improving pneumonia.   A
   little wheezy today.
   - Will leave on 5mg of prednisone today.  Continue nebs.
   - cont vanc for total 6 weeks, completed 10 day Zosyn course
   - Goal even fluid status today
   - Will aim for SaO2 88-92%
    2. Confusion: More delirious yesterday.  Difficulty sleeping
   -Continues with Haldol now that dobhoff is placed.
   -Will add QHS seroquel to assist with sundowning/insomnia
    3. Squamous cell carcinoma:  Newly diagnosed recurrence.
   -If able to improve from current status, would consider staging eval
    4. Atrial tachycardia:
   - will continue amiodarone and lopressor
    5. AoCRF: Creatinine stably mildly elevated.  Will continue to monitor
   in context of lasix.
    6. FEN:
   - TF started via dobhoff.
    Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-5-11**] 01:56 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes

2183-05-12 07:08:00 Physician Resident Progress Note
Chief Complaint: 68yo M with CAD, CABG, severe COPD & prior NSLC  who
   was admitted w / hypoxia in setting of MRSA PNA with bacteremia, now
   found to have recurrence of his lung CA
   [**97**] Hour Events:
   - Goal even for fluid balance, given one dose of 40IV lasix overnight
   - Had tachycardia to 130s overnight, given 150mg IV bolus of amiodarone
   and 5mg IV metoprolol x 2, 500ml bolus
   - Pulled out Dobhoff tube again, all essential meds changed to IV
   - Trial of QHS zydis, remains on haldol
   - Nebs increased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-11**] 10:20 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2183-5-11**] 08:30 PM
   Furosemide (Lasix) - [**2183-5-11**] 10:54 PM
   Amiodarone - [**2183-5-11**] 11:45 PM
   Metoprolol - [**2183-5-12**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2183-5-12**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-12**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 85 (83 - 160) bpm
   BP: 113/54(68) {72/31(49) - 134/61(75)} mmHg
   RR: 19 (16 - 35) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  1,847 mL
                                                                    661 mL
   PO:
             TF:
                                                                    906 mL
   IVF:
                                                                    622 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                  1,209 mL
                                                                    730 mL
   Urine:
                                                                  1,009 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    638 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   General: face mask and NC in place, NAD, using accessory muscles to
   breathe
   HEENT: PERRL, EOMI
   CVS: S1/S2 reg, no m/r/g
   LUNGS: crackles on left, expiratory wheezes in all lung fields
   EXT: 2+ pedal pulses, boots
   ABD: nontender / nondistended, soft, normoactive bowel sounds
   SKIN: pallid complexion, warm , no new rashes
   Labs / Radiology
   270 K/uL
   9.5 g/dL
   152 mg/dL
   1.5 mg/dL
   36 mEq/L
   3.8 mEq/L
   36 mg/dL
   103 mEq/L
   146 mEq/L
   28.7 %
   9.3 K/uL
         [image002.jpg]
                             [**2183-5-8**]  06:06 PM
                             [**2183-5-8**]  11:58 PM
                             [**2183-5-9**]  06:02 AM
                             [**2183-5-9**]  01:24 PM
                             [**2183-5-10**]  12:13 AM
                             [**2183-5-10**]  05:58 AM
                             [**2183-5-10**]  04:37 PM
                             [**2183-5-11**]  04:11 AM
                             [**2183-5-11**]  02:50 PM
                             [**2183-5-12**]  04:13 AM
   WBC
   7.8
   7.5
   7.3
   9.4
   9.3
   Hct
   27.2
   27.3
   28.6
   28.1
   28.8
   28.7
   Plt
   172
   172
   203
   260
   270
   Cr
   1.9
   1.8
   1.6
   1.8
   1.7
   1.6
   1.6
   1.5
   TCO2
   36
   38
   Glucose
   114
   137
   113
   141
   164
   165
   156
   152
   Other labs: PT / PTT / INR:12.9/25.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan:
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia and now has recurrent lung cancer
   which continued hypoxemia and delirium.
   .
   # Respiratory failure:   Respiratory status worsened overnight.
   Multifactorial with wheezes consistent with worsened COPD, increased
   fluid, with baseline poor lung function, low lung volumes.
   - keeping UOP > 30cc/hr , aim for diuresis today with goal I/O -500cc.
   Will give 40mg IV lasix now, if still with air hunger, give 0.5mg IV
   morphine
   - if no improvement, increase steroids back up to prednisone 40mg daily
   (has been on 5mg prednisone of long steroid taper)
   - continue  on standing nebs & MDIs; increased  nebs overnight
   - aim for O2 sat 90-95%
   # Delirium:  Less delirium overnight.
   - continue Haldol 3mg qpm and 1-2 mg PRN q 8 hrs during daytime
   - continue Zydis trial and will consider additional Seroquel HS if able
   to take POs
   - check EKG / QT  today given higher doses of Haldol
   - reorient frequently, out of bed, enforce sleep/wake cycles
   - light restraints as needed
   .
   # NSCLC recurrence:  IP biopsy results now confirmed as squamous cell
   lung cancer. Per recent family meetings, goals of care changed to
   DNR/DNI and optimizing patients comfort levels.
   - f/up palliative care team recs
 will be by to see team on Tuesday in
   person.
   - will discuss with family whether further oncology palliative
   therapies/workup for more staging is desired
   - social work involved / f/up notes and recs
   # Goals of care: Per meeting with family on Friday
 plan was to focus
   on nutrition and delirium over weekend. However, if no improvement, may
   need to focus more on comfort.  Also consider whether patient could
   transfer somewhere closer to family
   - talk to family today with update/readdress goals in setting of
   worsened respiratory status
   # CAD,s/p CABG: No active issues
   - continue ASA, plavix  BB
   # systolic CHF:  recent EF 35% on ECHO. Patient has slightly increased
   volume today with overnight 24h I/O positive 600cc.
   -f/up CXR today
   -continue BB
   -continue with additional diuresis w/Lasix and goal I/O -500ml today
   - checking PM lytes
   - consider adding ACEI when Cr trending back down
   .
   # Atach/afib: Patient had flare up of his atrial fibrillation
   overnight.  He needed additional beta blocker boluses and Amiodarone to
   control his ectopy.
   - continue metoprolol TID IV, uptitrate as tolerates
   - continue amiodarone IV boluses as needed alongside PO Amiodarone [**Hospital1 7**]
   - monitoring on tele
   - follow K, Mg  PM labs  and replete aggressively
   .
   # Anemia: Stable at 28 range now.  Has been stable for several days and
   etiology felt to be [**2-25**] some occult  stress gastritis. Has not required
   transfusions since [**5-2**].
   - continue on PPI
   - will trend HCTs daily  keep >25 given CAD history
   - make sure updated active T/S
   - guaiac stools
   # CRI : Trending downwards
   - continue to follow urine output, Cr
   ICU Care
   Nutrition: Replace Dophoff today to restart TFs
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT:  Pneumoboots, SC heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU
 Talk to family regarding goals of care

2183-05-12 10:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M COPD, CHF, history NSCLCA s/ RUL resection, here with MRSA
   pneumonia and bacteremia, found to have recurrent SCC
   24 Hour Events:
   SVT overnight with HoTN, given amiodarone 150 bolus, 500 c ns bolus,
   lopressor with improved HR
   Aggitated, removed doboff tube
   Got 10 mg zydis at night, with no aggitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-11**] 10:20 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2183-5-11**] 08:30 PM
   Furosemide (Lasix) - [**2183-5-11**] 10:54 PM
   Amiodarone - [**2183-5-11**] 11:45 PM
   Heparin Sodium (Prophylaxis) - [**2183-5-12**] 12:30 AM
   Metoprolol - [**2183-5-12**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-12**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 81 (81 - 160) bpm
   BP: 109/49(64) {72/31(49) - 134/66(77)} mmHg
   RR: 23 (16 - 35) insp/min
   SpO2: 95%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  1,847 mL
                                                                    731 mL
   PO:
             TF:
                                                                    906 mL
   IVF:
                                                                    622 mL
                                                                    731 mL
   Blood products:
   Total out:
                                                                  1,209 mL
                                                                    870 mL
   Urine:
                                                                  1,009 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    638 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///36/
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : diffuse, prolonged exp
   phase)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   person, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   270 K/uL
   152 mg/dL
   1.5 mg/dL
   36 mEq/L
   3.8 mEq/L
   36 mg/dL
   103 mEq/L
   146 mEq/L
   28.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2183-5-8**]  06:06 PM
                             [**2183-5-8**]  11:58 PM
                             [**2183-5-9**]  06:02 AM
                             [**2183-5-9**]  01:24 PM
                             [**2183-5-10**]  12:13 AM
                             [**2183-5-10**]  05:58 AM
                             [**2183-5-10**]  04:37 PM
                             [**2183-5-11**]  04:11 AM
                             [**2183-5-11**]  02:50 PM
                             [**2183-5-12**]  04:13 AM
   WBC
   7.8
   7.5
   7.3
   9.4
   9.3
   Hct
   27.2
   27.3
   28.6
   28.1
   28.8
   28.7
   Plt
   172
   172
   203
   260
   270
   Cr
   1.9
   1.8
   1.6
   1.8
   1.7
   1.6
   1.6
   1.5
   TCO2
   36
   38
   Glucose
   114
   137
   113
   141
   164
   165
   156
   152
   Other labs: PT / PTT / INR:12.9/25.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   68 yo M COPD, CHF, history NSCLCA s/ RUL resection, here with MRSA
   pneumonia and bacteremia, found to have recurrent SCC
   1. Respiratory failure: likely combination volume overload and COPD on
   top of pneumonia and LUL obstructing mass
    - will give 40 mg IV lasix now, with aim TBB negative 1L as tolerated
    - Will give 0.5 mg morphiine to assist with air hunger as his
   tachypnea appears partly driven by anxiety and is increasing his
   deadspace/worsening oxygenation
    - start flovent nebs
    - aim SaO2 90-95%
   - Start iv steroids
 80mg methypred q8 hrs for next day
   2. Delirium: tolerated zydis overnight while NPO, will given haldol 3
   mg QHS
   3. goals of care:
    - currently aiming to optimize nutrition and mental status before
   determining possible further care.  If patient continues to demonstrate
   no improvement, family is considering readdressing overall goals of
   care, may ultiimately be best to transfer to facility near their home
   with focus of care on comfort
   4. SVT: currently on IV amiodarone while not tolerating POs, replete
   lytes as needed
   5. renal insufficiency: creatinine at baseline
   6. FEN: will replace doboff today
   ICU Care
   Nutrition:
   Comments: will replace doboff and start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2183-05-13 07:44:00 Physician Resident Progress Note
Chief Complaint:
   68yo M with COPD, CAD ( s/p CABG) admitted with hypotension and
   respiratory failure in setting of MRSA PNA &  bacteremia and now with
   recurrent lung cancer with continued hypoxemia and delirium
   24 Hour Events:
   - replaced dophoff
   - patient with increased difficulty breathing in AM with wheezing,
   given 40mg IV lasix x 1, solumedrol Q8hr, and one trial of racemic epi
   for possible upper airway obstruction -> breathing improved
   - given free water boluses for hypernatremia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-12**] 11:30 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2183-5-12**] 08:45 AM
   Furosemide (Lasix) - [**2183-5-12**] 11:40 AM
   Lansoprazole (Prevacid) - [**2183-5-12**] 04:00 PM
   Morphine Sulfate - [**2183-5-12**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-13**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 99 (81 - 104) bpm
   BP: 138/62(80) {87/38(49) - 138/66(80)} mmHg
   RR: 33 (17 - 38) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  1,702 mL
                                                                    445 mL
   PO:
             TF:
                                                                    363 mL
                                                                    349 mL
   IVF:
                                                                  1,199 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    330 mL
   Urine:
                                                                  2,025 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -323 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///36/
   Physical Examination
   General: face mask and NC in place, NAD, using accessory muscles to
   breathe
   HEENT: PERRL, EOMI
   CVS: S1/S2 reg, no m/r/g
   LUNGS: crackles on left, expiratory wheezes in all lung fields
   EXT: 2+ pedal pulses, boots
   ABD: NABs , nontender / nondistended , soft
   SKIN: pallid complexion, warm , no new rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   319 K/uL
   9.8 g/dL
   253 mg/dL
   1.7 mg/dL
   36 mEq/L
   4.4 mEq/L
   41 mg/dL
   101 mEq/L
   146 mEq/L
   30.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2183-5-9**]  06:02 AM
                             [**2183-5-9**]  01:24 PM
                             [**2183-5-10**]  12:13 AM
                             [**2183-5-10**]  05:58 AM
                             [**2183-5-10**]  04:37 PM
                             [**2183-5-11**]  04:11 AM
                             [**2183-5-11**]  02:50 PM
                             [**2183-5-12**]  04:13 AM
                             [**2183-5-12**]  07:38 PM
                             [**2183-5-13**]  05:20 AM
   WBC
   7.5
   7.3
   9.4
   9.3
   9.3
   Hct
   27.3
   28.6
   28.1
   28.8
   28.7
   30.7
   Plt
   172
   203
   260
   270
   319
   Cr
   1.8
   1.6
   1.8
   1.7
   1.6
   1.6
   1.5
   1.8
   1.7
   TCO2
   38
   Glucose
   137
   113
   141
   164
   165
   156
   152
   215
   253
   Other labs: PT / PTT / INR:12.9/25.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   68 year-old male with COPD, h/o lung cancer with RUL lobectomy, & CAD (
   s/p CABG) who was admitted with hypotension and respiratory failure in
   setting of MRSA PNA and bacteremia now found to have recurrent lung
   cancer with continued hypoxemia and delirium.
   .
   # Respiratory failure:   Respiratory status worsened overnight.
   Multifactorial with wheezes consistent with worsened COPD, increased
   fluid, with baseline poor lung function, low lung volumes.
   - keeping UOP > 30cc/hr , aim for diuresis today with goal I/O -500cc.
   - for air hunger, giving 0.5mg IV morphine PRN
   - willl keep goal -500cc today / gentle IV lasix PRN
   - if no improvement, increase steroids back up to prednisone 40mg daily
   (has been on 5mg prednisone of long steroid taper)
   - continue  on standing nebs & MDIs; increased  nebs overnight
   - aim for O2 sat 90-95%
   - continue on IV steroids (day 2)
   - continue on IV vanco x 6 weeks total course for MRSA bacteremia/PNA
   # Delirium:  Less delirium overnight. Likely ICU delirium vs. potential
   metastatic process.
   - continue Haldol 3mg qpm and 1-2 mg PRN q 8 hrs during daytime
   - continue Zydis QHS as patient with decreased delirium yesterday night
   on this regimen
   - check EKG / QT  today given higher doses of Haldol
   - reorient frequently, out of bed, enforce sleep/wake cycles
   - light restraints as needed
   .
   # NSCLC recurrence:  IP biopsy results now confirmed as squamous cell
   lung cancer. Per recent family meetings, goals of care changed to
   DNR/DNI and optimizing patients comfort levels.
   -
   - f/up palliative care team recs / family meeting
   - holding off on oncology consult for nw
   - social work involved / f/up notes and recs
   # Goals of care: Per meeting with family on Friday
 plan was to focus
   on nutrition and delirium over weekend. However, if no improvement, may
   need to focus more on comfort.  Also consider whether patient could
   transfer somewhere closer to family
   - talk to oncology today to weigh in on any options for
   treatment/prognosis for recurrent squamous cell ca
   - talk to family today with update/readdress goals in setting of
   worsened respiratory status
   # CAD,s/p CABG: No active issues
   - continue ASA, plavix
   - change BB from Po to IV
   # systolic CHF:  recent EF 35% on ECHO. Patient has slightly increased
   volume today with overnight 24h I/O positive 600cc.
   -f/up CXR today
   -switch back to  IV beta blocker
   -keep patient even to negative -500L out, watching PM lytes and Cr
   - consider adding ACEI when Cr trending back down
   .
   # Atach/afib: Patient had flare up of his atrial fibrillation
   overnight.  He needed additional beta blocker boluses and Amiodarone to
   control his ectopy.
   - EP physician, [**Name10 (NameIs) 5758**] to come to evaluate/talk to family
   - continue metoprolol TID IV, uptitrate as tolerates
   - continue amiodarone 400mg [**Hospital1 7**] via Dophoff
   - follow K, Mg  PM labs  and replete aggressively
   .
   # Anemia: Stable at 28 range now.  Has been stable for several days and
   etiology felt to be [**2-25**] some occult  stress gastritis. Has not required
   transfusions since [**5-2**].
   - continue on PPI
   - will trend HCTs daily  keep >25 given CAD history
   - make sure updated active T/S
   - guaiac stools
   # CRI : Trending downwards
   - continue to follow urine output, Cr
   ICU Care
   Nutrition: Dophoff in place
   Nutren Pulmonary (Full) - [**2183-5-13**] 03:01 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT: Pneumoboots, SC heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU

2183-05-13 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Dobhoff replaced
   - Increased WOB with increased wheezing - given lasix and restarted IV
   solumedrol
   - Received  racemic epi without improvement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-5-13**] 08:16 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-5-12**] 11:40 AM
   Lansoprazole (Prevacid) - [**2183-5-12**] 04:00 PM
   Morphine Sulfate - [**2183-5-12**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2183-5-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-5-13**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**85**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 85 (80 - 104) bpm
   BP: 117/56(72) {87/38(49) - 145/65(84)} mmHg
   RR: 25 (17 - 38) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 85.5 kg (admission): 87.2 kg
   Height: 65 Inch
             Total In:
                                                                  1,702 mL
                                                                  1,112 mL
   PO:
             TF:
                                                                    363 mL
                                                                    496 mL
   IVF:
                                                                  1,199 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    435 mL
   Urine:
                                                                  2,025 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -323 mL
                                                                    677 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   319 K/uL
   253 mg/dL
   1.7 mg/dL
   36 mEq/L
   4.4 mEq/L
   41 mg/dL
   101 mEq/L
   146 mEq/L
   30.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2183-5-9**]  06:02 AM
                             [**2183-5-9**]  01:24 PM
                             [**2183-5-10**]  12:13 AM
                             [**2183-5-10**]  05:58 AM
                             [**2183-5-10**]  04:37 PM
                             [**2183-5-11**]  04:11 AM
                             [**2183-5-11**]  02:50 PM
                             [**2183-5-12**]  04:13 AM
                             [**2183-5-12**]  07:38 PM
                             [**2183-5-13**]  05:20 AM
   WBC
   7.5
   7.3
   9.4
   9.3
   9.3
   Hct
   27.3
   28.6
   28.1
   28.8
   28.7
   30.7
   Plt
   172
   203
   260
   270
   319
   Cr
   1.8
   1.6
   1.8
   1.7
   1.6
   1.6
   1.5
   1.8
   1.7
   TCO2
   38
   Glucose
   137
   113
   141
   164
   165
   156
   152
   215
   253
   Other labs: PT / PTT / INR:12.9/25.5/1.1, CK / CKMB /
   Troponin-T:51/4/0.06, ALT / AST:41/37, Alk Phos / T Bili:120/0.5,
   Differential-Neuts:85.5 %, Lymph:9.2 %, Mono:3.0 %, Eos:2.1 %,
   Fibrinogen:675 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:266
   IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   68 yo M COPD, CHF, history NSCLCA s/ RUL resection, here with MRSA
   pneumonia and bacteremia, found to have recurrent SCC
   1. Respiratory failure: likely combination volume overload and COPD on
   top of pneumonia and LUL obstructing mass
    - will give 40 mg IV lasix now, with aim TBB negative 1L as tolerated
    - Will give 0.5 mg morphiine to assist with air hunger as his
   tachypnea appears partly driven by anxiety and is increasing his
   deadspace/worsening oxygenation
    - start flovent nebs
    - aim SaO2 90-95%
   - Start iv steroids
 80mg methypred q8 hrs for next day
   2. Delirium: tolerated zydis overnight while NPO, will given haldol 3
   mg QHS
   3. goals of care:
    - currently aiming to optimize nutrition and mental status before
   determining possible further care.  If patient continues to demonstrate
   no improvement, family is considering readdressing overall goals of
   care, may ultiimately be best to transfer to facility near their home
   with focus of care on comfort
   4. SVT: currently on IV amiodarone while not tolerating POs, replete
   lytes as needed
   5. renal insufficiency: creatinine at baseline
   6. FEN: will replace doboff today
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-5-13**] 03:01 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-4-21**] 02:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 28 minutes
   Patient is critically ill